2147-10-11 12:40:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 y.o. woman with T2 paraplegia, here with sepsis, pneumonia, acute on
   chronic respiratory failure
   24 Hour Events:
   Off pressors since 6 am
   Switched from zosyn to meropenem given concern for drug fever.
   On PSV 5/CPAP 5/40% Fi02; appears very comfortable.  Minimal
   secretions.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-10-10**] 11:28 AM
   Vancomycin - [**2147-10-10**] 08:00 PM
   Meropenem - [**2147-10-11**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-11**] 06:00 AM
   Lansoprazole (Prevacid) - [**2147-10-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-10-11**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 66 (54 - 77) bpm
   BP: 118/68(89) {79/48(62) - 136/82(101)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.3 kg (admission): 72.3 kg
   Height: 65 Inch
   CVP: 3 (3 - 8)mmHg
   Total In:
                                                                  1,502 mL
                                                                    276 mL
   PO:
   TF:
                                                                    152 mL
   IVF:
                                                                  1,260 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    865 mL
   Urine:
                                                                    740 mL
                                                                    865 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    757 mL
                                                                   -589 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 280 (201 - 377) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 23.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/31/99.[**Numeric Identifier 299**]/22/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   134 K/uL
   83 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.6 mEq/L
   14 mg/dL
   114 mEq/L
   142 mEq/L
   25.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2147-10-9**]  05:21 AM
                             [**2147-10-9**]  01:21 PM
                             [**2147-10-9**]  01:27 PM
                             [**2147-10-9**]  04:31 PM
                             [**2147-10-10**]  03:04 AM
                             [**2147-10-10**]  02:26 PM
                             [**2147-10-10**]  05:38 PM
                             [**2147-10-11**]  03:33 AM
                             [**2147-10-11**]  06:52 AM
                             [**2147-10-11**]  07:07 AM
   WBC
   7.8
   10.4
   6.7
   Hct
   33.7
   30.9
   26.2
   25.7
   Plt
   189
   200
   134
   Cr
   0.2
   0.5
   0.4
   0.5
   TCO2
   22
   23
   22
   23
   24
   Glucose
   145
   139
   123
   83
   Other labs: PT / PTT / INR:14.2/39.9/1.2, Differential-Neuts:78.9 %,
   Lymph:17.6 %, Mono:2.2 %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Ca++:8.1
   mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: vanco - 28
   Imaging: CXR:  ETT and central line
   Microbiology: UCx: No growth
   Sputum:  moderate GNRs
   Assessment and Plan
 ALTERATION IN NUTRITION:  Tube feeds held since midnight in
   anticipation of extubation.
ACTUE ON CHRONIC RESPIRATORY FAILURE:  Secondary to pneumonia.
   Continues abx as below.  Tolerating minimal support on the ventilator.
   Repeat RSBI 69.  Awake and alert.  Plan to extubate after rounds.
 PNEUMONIA:  Holding vancomycin given high level. Continue meropenem.
   Flu swab negative.  Awaiting final ID of GNR in sputum.  Discontinue
   vancomycin.
 SEPTIC SHOCK:  Off pressors.
 H/O URINARY TRACT INFECTION (UTI):  Urince culture no growth to
   date.
 HYPOXEMIA
 HYPOKALEMIA:  Repleted this am.  Followup labs.
 ANEMIA:  Hct drifting down.  Checking stool guaiac.  Followup hct
   this afternoon.  Iron studies.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Comments: Tube feeds off since midnight
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   Called to see patient given increasing somnolence, tachypnea ~2 hours
   post extubation.  Increased bilateral crackles on exam  albeit not
   taking good inspirations; minimal cough, somnolent but  arousable to
   voice.   No stridor.  Secretions had been minimal prior to extubation.
   Anethesia called to re-intubate.  Will diurese.  Check chest x-ray
   post-intubation for tube placement.
   Time spent:  25 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2147-10-11**] 15:36 ------

2147-10-13 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - antibiotics were changed from meropenem to levofloxacin yesterday
   - vitamin D added because of low phos
   - 10mg IV lasix in the morning, at midnight fluid balance was 67cc neg,
   so gave another 10mg IV lasix at 4am on morning [**10-13**]
   - pt briefly desatted to 80s, suctioned out some pluggy material. sat
   went back up to 97%.
   - chest CT final read still pending
   - consider MIE as pt does not have good cough mechanism
   - still on tube feeds
   - continued on propofol for sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-10-10**] 11:28 AM
   Vancomycin - [**2147-10-10**] 08:00 PM
   Meropenem - [**2147-10-12**] 07:47 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-12**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-12**] 02:00 PM
   Furosemide (Lasix) - [**2147-10-12**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-13**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 60 (49 - 92) bpm
   BP: 118/64(85) {107/57(78) - 158/84(111)} mmHg
   RR: 20 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,141 mL
                                                                    334 mL
   PO:
             TF:
                                                                    703 mL
                                                                    256 mL
   IVF:
                                                                    438 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                    710 mL
   Urine:
                                                                  1,700 mL
                                                                    710 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                   -376 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 34.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/39/155/25/2
   Ve: 9.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: NAD
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Respiratory / Chest: (Breath Sounds: Crackles : left greater than right
   dependently)
   Abdominal: Soft, Non-tender, ND, + BS in all 4 quadrants
   Extremities: Lower extremities very cold.  Right lower extremity edema:
   Absent, Left lower extremity edema: Absent
   Neurologic: Sedated but arousable.  Follows simple commands.
   Labs / Radiology
   129 K/uL
   8.4 g/dL
   94 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.4 mEq/L
   12 mg/dL
   111 mEq/L
   142 mEq/L
   25.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2147-10-11**]  12:24 PM
                             [**2147-10-11**]  03:13 PM
                             [**2147-10-11**]  05:18 PM
                             [**2147-10-11**]  10:14 PM
                             [**2147-10-11**]  10:33 PM
                             [**2147-10-12**]  04:08 AM
                             [**2147-10-12**]  04:53 AM
                             [**2147-10-12**]  09:10 AM
                             [**2147-10-13**]  04:15 AM
                             [**2147-10-13**]  04:28 AM
   WBC
   4.3
   4.7
   Hct
   27.0
   26.0
   25.2
   Plt
   129
   129
   Cr
   0.4
   0.4
   TCO2
   26
   26
   19
   22
   23
   24
   27
   Glucose
   69
   94
   Other labs: PT / PTT / INR:14.2/39.9/1.2, Differential-Neuts:78.9 %,
   Lymph:17.6 %, Mono:2.2 %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   MICRO:
   Urine cx ([**10-9**]) final: no growth
   Blood cx pending ([**10-8**])
   Neg flu
   Sputum Cx GNR pending susceptibilities.
[**2147-10-9**].RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
[**2147-10-8**]
      KLEBSIELLA PNEUMONIAE.    HEAVY GROWTH.
      STAPH AUREUS COAG +.    QUANTITATION NOT AVAILABLE.
                             KLEBSIELLA PNEUMONIAE
CIPROFLOXACIN---------<=0.25 S
   STUDIES
   [**2147-10-12**]
   IMPRESSION:
   Diffuse ground-glass opacification in the left upper lobe and lingula
   have improved since the chest radiograph on the [**10-9**], probably
   improving consolidation due to infection, hemorrhage, or pulmonary
   edema.
   Chronic right lower lobe atelectasis is unchanged back to [**2147-3-5**]
   CT with associated bronchiectasis and mucoid impaction.
   The focal ground-glass and consolidation in the right upper lobe has
   also improved since the recent chest radiographs.
   Left lower lobe atelectasis has partially cleared since the previous
   CT. Moderate residual atelectasis,consolidatio, mucoid impaction, and
   peribronchial wall thickening suggest recent infection.
   The ET tube could be withdrawn 2-3 cm to a more optimal position.
   Abdominal ascites.
   CXR [**10-13**]: no acute changes
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.  Now hemodynamically
   stable.
   # Hypoxia and respiratory failure: possibilities include atelectasis,
   small pleural effusions, pneumonia.  Could also be due to low phosphate
   secondary to Vit D deficiency.  Currently on AC 380X20 -> with FIO2 of
   40% and her PEEP at 5.
   - secretions yesterday caused a brief drop in oxygen saturation.
   Continued abx txt and suctioning.
   - chest CT shows improvement in diffuse ground glass opacification.
   Atelectasis in RLL stable.  LLL atelectasis has partially cleared.
   - given 10mg IV lasix X 2 yesterday with diuresis of 950cc over 36
   hours.
   - will continue with 20mg IV Lasix today with goal diuresis of 2 L
   - consider MIE as outpt does not have good cough mechanism
   - if clinically improves, consider PS trial
    -continue on Vit D replacement
   .
   # Fever/Sepsis: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.
   -switch meropenem to levofloxacin (day 1: [**10-12**]) yesterday for total 8
   day course (today is day 5 of abx). 3 more days of abx.
   -no double coverage was begun for pseudomonas at this time
   -consider adding vanc if she spikes fever
   -considered viral cause, her flu swab remains negative.
   -considered drug fever but no visible rashes.
   -consider abscess or endocarditis, but given her improvement upon
   changing antibiotics, we will hold off on further imaging.
   -successfully weaned off of levophed with MAP > 70 throughout the night
   and uop > 30 cc/h
   -Give IVF for any drops in CVP. Recheck SVO2 in the AM.
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   - Hct stable this AM
   - B12, iron, folate studies
   # T2 Paraplegia:
   -continue home pain regimen with baclofen, methadone, lyrica.
   -continue home bowel regimen.
   #Hypokalemia: repleted this AM.  Consider intrinsic renal disease vs.
   potassium wasting
   -replete K with monitoring
   FEN: Held tube feeds at mignight for possible extubation today.
   Yesterday begun tube feeds of Nutrem Pulm 20 cc/hr with goal rate of 40
   cc/hr.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-12**] 01:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT:  subQ heparin
   Stress ulcer: PPi
   VAP: VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2147-10-13 11:43:00 Physician Attending Progress Note
Chief Complaint: respiraotry failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Episode of desaturation improved with sucitoning of small amount thick
   tan secretions/plug
   Diruesed with lasix
   Continues off pressors
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-10-10**] 11:28 AM
   Vancomycin - [**2147-10-10**] 08:00 PM
   Meropenem - [**2147-10-12**] 07:47 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-12**] 02:00 PM
   Furosemide (Lasix) - [**2147-10-12**] 02:00 PM
   Lansoprazole (Prevacid) - [**2147-10-13**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-10-13**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 60 (54 - 92) bpm
   BP: 118/80(87) {118/80(87) - 165/92(111)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,142 mL
                                                                    859 mL
   PO:
             TF:
                                                                    705 mL
                                                                    461 mL
   IVF:
                                                                    438 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                  1,695 mL
   Urine:
                                                                  1,700 mL
                                                                  1,695 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                   -573 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 225
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/39/155/25/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, Diminished:
   dependently)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, tearful; want ETT out
   Labs / Radiology
   8.4 g/dL
   129 K/uL
   94 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.4 mEq/L
   12 mg/dL
   111 mEq/L
   142 mEq/L
   25.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2147-10-11**]  12:24 PM
                             [**2147-10-11**]  03:13 PM
                             [**2147-10-11**]  05:18 PM
                             [**2147-10-11**]  10:14 PM
                             [**2147-10-11**]  10:33 PM
                             [**2147-10-12**]  04:08 AM
                             [**2147-10-12**]  04:53 AM
                             [**2147-10-12**]  09:10 AM
                             [**2147-10-13**]  04:15 AM
                             [**2147-10-13**]  04:28 AM
   WBC
   4.3
   4.7
   Hct
   27.0
   26.0
   25.2
   Plt
   129
   129
   Cr
   0.4
   0.4
   TCO2
   26
   26
   19
   22
   23
   24
   27
   Glucose
   69
   94
   Other labs: PT / PTT / INR:14.2/39.9/1.2, Differential-Neuts:78.9 %,
   Lymph:17.6 %, Mono:2.2 %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 ACUTE ON CHRONIC RESPIRATORY FAILURE:   Continues intubated.  Changed
   to levofloxicin.  Repeat sputum gram stain and culture given risk for
   nosocomial infection.  Started to diurese yesterday, has tolerated
   hemodynamically, will be a bit more aggressive.  Replete K and Mg as
   needed.
 PNEUMONIA, OTHER:   As above, on levoquin for Klebsiella pneumonia.
 SEPSIS WITHOUT ORGAN DYSFUNCTION/HYPOTENSION:  Resolved, continues
   off pressors now tolerating diruesis.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-13**] 07:18 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   Total time spent: 55 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2147-10-13**] 14:54 ------

2147-10-14 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2147-10-13**] 01:00 PM
 BRONCHOSCOPY - At [**2147-10-13**] 03:30 PM
   medicated with 4mg versed during procedure. tolerated well
   - diuresed with Lasix 20mg IV x2 during the day with good UOP
   - at around 1PM, desated to 80s, stat CXR showed no acute changes, FiO2
   increased to 100%, got suctioning
   - was bronched -> no thick secretions
   - weaned off FiO2 and O2sats remained high.
   - CT commented on abdominal ascites -> ordered LFTs in AM
   - ABG: 8PM:    pH 7.48 pCO2 42 pO2 154 HCO3 32
   FiO2%:50; TV:380; PEEP:5; Mode:Assist/Control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-10-12**] 07:47 AM
   Levofloxacin - [**2147-10-13**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-13**] 07:56 AM
   Midazolam (Versed) - [**2147-10-13**] 03:45 PM
   Furosemide (Lasix) - [**2147-10-13**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-14**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 47 (47 - 83) bpm
   BP: 149/75(102) {86/51(65) - 188/92(128)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,805 mL
                                                                    137 mL
   PO:
             TF:
                                                                    945 mL
   IVF:
                                                                    560 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                    310 mL
   Urine:
                                                                  3,780 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,975 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 154
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/36/160/27/6
   Ve: 6.9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: NAD
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Respiratory / Chest: (Breath Sounds: Crackles : left greater than right
   dependently)
   Abdominal: Soft, Non-tender, ND, + BS in all 4 quadrants
   Extremities: Lower extremities very cold.  Right lower extremity edema:
   Absent, Left lower extremity edema: Absent
   Neurologic: Sedated but arousable.  Follows simple commands.
   Labs / Radiology
   160 K/uL
   8.3 g/dL
   86 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   105 mEq/L
   142 mEq/L
   24.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2147-10-12**]  09:10 AM
                             [**2147-10-13**]  04:15 AM
                             [**2147-10-13**]  04:28 AM
                             [**2147-10-13**]  11:49 AM
                             [**2147-10-13**]  01:09 PM
                             [**2147-10-13**]  04:40 PM
                             [**2147-10-13**]  07:23 PM
                             [**2147-10-13**]  07:37 PM
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
   WBC
   4.7
   4.8
   Hct
   25.2
   24.5
   Plt
   129
   160
   Cr
   0.4
   0.3
   0.5
   0.4
   TCO2
   24
   27
   28
   26
   32
   30
   Glucose
   94
   101
   116
   86
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   MICRO:
   Urine cx ([**10-9**]) final: no growth
   Blood cx pending ([**10-8**])
   Neg flu
   Sputum Cx GNR pending susceptibilities.
[**2147-10-9**].RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
[**2147-10-8**]
      KLEBSIELLA PNEUMONIAE.    HEAVY GROWTH.
      STAPH AUREUS COAG +.    QUANTITATION NOT AVAILABLE.
                             KLEBSIELLA PNEUMONIAE
CIPROFLOXACIN---------<=0.25 S
   STUDIES
   [**2147-10-12**]
   IMPRESSION:
   Diffuse ground-glass opacification in the left upper lobe and lingula
   have improved since the chest radiograph on the [**10-9**], probably
   improving consolidation due to infection, hemorrhage, or pulmonary
   edema.
   Chronic right lower lobe atelectasis is unchanged back to [**2147-3-5**]
   CT with associated bronchiectasis and mucoid impaction.
   The focal ground-glass and consolidation in the right upper lobe has
   also improved since the recent chest radiographs.
   Left lower lobe atelectasis has partially cleared since the previous
   CT. Moderate residual atelectasis,consolidatio, mucoid impaction, and
   peribronchial wall thickening suggest recent infection.
   The ET tube could be withdrawn 2-3 cm to a more optimal position.
   Abdominal ascites.
   CXR [**10-13**]:
   IMPRESSION:
   1. No pneumothorax.
   2. While aeration of the right lung base has improved, worsened left
   basilar
   consolidation, likely atelectasis, with small pleural effusion.
   CXR ([**10-14**]): my read
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.  Now hemodynamically
   stable.
   # Hypoxia and respiratory failure: possibilities include atelectasis,
   small pleural effusions, pneumonia.  Could also be due to low phosphate
   secondary to Vit D deficiency.  Currently on AC 380X20 -> with FIO2 of
   50% and her PEEP at 5.
   - secretions yesterday caused a brief drop in oxygen saturation.
   Continued abx txt and suctioning.
   - bronch showed no secretions
   - chest CT shows improvement in diffuse ground glass opacification.
   Atelectasis in RLL stable.  LLL atelectasis has partially cleared.
   - given 20mg IV lasix X 2 yesterday with diuresis of 2150 over last 36
   hours.
   - will continue with 20mg IV Lasix today with goal diuresis of 2 L
   - consider MIE as outpt does not have good cough mechanism
   - if clinically improves, consider PS trial
    -continue on Vit D replacement
   .
   # Fever/Sepsis: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.
   -switch meropenem to levofloxacin (day 1: [**10-12**]) yesterday for total 8
   day course (today is day 5 of abx). 3 more days of abx.
   -no double coverage was begun for pseudomonas at this time
   -consider adding vanc if she spikes fever
   -considered viral cause, her flu swab remains negative.
   -considered drug fever but no visible rashes.
   -consider abscess or endocarditis, but given her improvement upon
   changing antibiotics, we will hold off on further imaging.
   -successfully weaned off of levophed with MAP > 70 throughout the night
   and uop > 30 cc/h
   -Give IVF for any drops in CVP. Recheck SVO2 in the AM.
   .
   # abdominal ascites: unclear etiology.  Will obtain albumin, LFTs.
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   - Hct stable this AM
   - B12, iron, folate studies
   # T2 Paraplegia:
   -continue home pain regimen with baclofen, methadone, lyrica.
   -continue home bowel regimen.
   #Hypokalemia: repleted this AM.  Consider intrinsic renal disease vs.
   potassium wasting
   -replete K with monitoring
   FEN: Held tube feeds at mignight for possible extubation today.
   Yesterday begun tube feeds of Nutrem Pulm 20 cc/hr with goal rate of 40
   cc/hr.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-12**] 01:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT:  subQ heparin
   Stress ulcer: PPi
   VAP: VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2147-10-14 11:01:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2147-10-13**] 01:00 PM
 BRONCHOSCOPY - At [**2147-10-13**] 03:30 PM
   medicated with 4mg versed during procedure. tolerated well
   -Patient with recurrent desaturation yesterday without mucus plugging
   seen and with gradual resolution
   -Patient wtih continued negative fluid balance well tolerated.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-10-12**] 07:47 AM
   Levofloxacin - [**2147-10-13**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2147-10-13**] 03:45 PM
   Furosemide (Lasix) - [**2147-10-13**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-14**] 06:00 AM
   Lansoprazole (Prevacid) - [**2147-10-14**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Flowsheet Data as of  [**2147-10-14**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 53 (47 - 83) bpm
   BP: 163/80(111) {86/51(65) - 166/86(115)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,805 mL
                                                                    199 mL
   PO:
             TF:
                                                                    945 mL
   IVF:
                                                                    560 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                    370 mL
   Urine:
                                                                  3,780 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,975 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 330 (330 - 380) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 154
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.52/36/160/27/6
   NIF: -23 cmH2O
   Ve: 6.2 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: --very good air movement, minimal crackles )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   160 K/uL
   86 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   105 mEq/L
   142 mEq/L
   24.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2147-10-12**]  09:10 AM
                             [**2147-10-13**]  04:15 AM
                             [**2147-10-13**]  04:28 AM
                             [**2147-10-13**]  11:49 AM
                             [**2147-10-13**]  01:09 PM
                             [**2147-10-13**]  04:40 PM
                             [**2147-10-13**]  07:23 PM
                             [**2147-10-13**]  07:37 PM
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
   WBC
   4.7
   4.8
   Hct
   25.2
   24.5
   Plt
   129
   160
   Cr
   0.4
   0.3
   0.5
   0.4
   TCO2
   24
   27
   28
   26
   32
   30
   Glucose
   94
   101
   116
   86
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: 7.48/42/154--8pm [**10-13**]
   Imaging: CXR-Suggestion of small pleural effusions, RLL collapse
   Microbiology: Sputum-[**10-13**]-no organisms, 25 PMNs'
   C. Diff-negative
   [**10-8**]--Klebsiella, S. Aureus--R-clinda seen
   Assessment and Plan
   50 yo female with h/o paraplegia and recurrent UTI and pnuemonia now
   admitted with sepsis and respiratory failure.  She currently has had
   significant improvement in sepsis with WBC decreased and BP able to be
   maintained off of pressors.  Of note, she does have intermittent
   hypoxemia while on ventilatory support but has tolerated diuresis quite
   well.
   1)Respiratory Failure-At this time she has current limitations of
   restriction from abdomen, mild contribution of volume overload and
   likely pulmonary edema.  This, however, appears to be relatively
   minimal in the setting of positive pressure.  She will need to
   -Continue diuresis today
   -Re-evaluate with RSBI this pm
   -Continue to wean PSV today
   -look to extubation in AM with true optimization
   2)Sepsis-Off pressors, good resposne, cultures following initial
   negative-
   -goal negative fluid balance
   -Day 6 of ABX
Levoflox to continue for 8 days
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed in details with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2147-10-14 18:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2147-10-13**] 01:00 PM
 BRONCHOSCOPY - At [**2147-10-13**] 03:30 PM
   medicated with 4mg versed during procedure. tolerated well
   - diuresed with Lasix 20mg IV x2 during the day with good UOP
   - desated to 80s, stat CXR showed no acute changes, got suctioning
   - was bronched -> no thick secretions
   - CT commented on abdominal ascites -> ordered LFTs in AM
   - ABG: 7:37p pH 7.48 pCO2 42 pO2 154 HCO3 32
   FiO2%:50; TV:380; PEEP:5; Mode:Assist/Control
   - PM lytes: Na 143  K 4.1 Cl 106 HCO3 27 BUN 11 Cr 0.5 Gluc 116
               Ca 8.4 Mg 1.9 P 3.3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-10-12**] 07:47 AM
   Levofloxacin - [**2147-10-13**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-14**] 08:16 AM
   Furosemide (Lasix) - [**2147-10-14**] 11:54 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-14**] 02:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-14**] 06:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 55 (47 - 76) bpm
   BP: 135/78(101) {97/60(76) - 166/86(115)} mmHg
   RR: 14 (11 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,805 mL
                                                                  1,018 mL
   PO:
             TF:
                                                                    945 mL
                                                                    460 mL
   IVF:
                                                                    560 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                  1,460 mL
   Urine:
                                                                  3,780 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,975 mL
                                                                   -442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 330 (330 - 380) mL
   Vt (Spontaneous): 409 (370 - 409) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 154
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.40/51/187/27/5
   NIF: -23 cmH2O
   Ve: 3.6 L/min
   PaO2 / FiO2: 468
   Physical Examination
   General Appearance: NAD
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Respiratory / Chest: (Breath Sounds: Crackles : left greater than right
   dependently)
   Abdominal: Soft, Non-tender, ND, + BS in all 4 quadrants
   Extremities: Lower extremities very cold.  Right lower extremity edema:
   Absent, Left lower extremity edema: Absent
   Neurologic: Sedated but arousable.  Follows simple commands.
   Labs / Radiology
   160 K/uL
   8.3 g/dL
   86 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   105 mEq/L
   142 mEq/L
   24.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2147-10-13**]  04:15 AM
                             [**2147-10-13**]  04:28 AM
                             [**2147-10-13**]  11:49 AM
                             [**2147-10-13**]  01:09 PM
                             [**2147-10-13**]  04:40 PM
                             [**2147-10-13**]  07:23 PM
                             [**2147-10-13**]  07:37 PM
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
   WBC
   4.7
   4.8
   Hct
   25.2
   24.5
   Plt
   129
   160
   Cr
   0.4
   0.3
   0.5
   0.4
   TCO2
   27
   28
   26
   32
   30
   33
   Glucose
   94
   101
   116
   86
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   AST: 15, ALT: 6, LDH: 189, AP: 53, Total bili: 0.1, albumin: 2.8, Ca:
   8.0, [**Doctor Last Name **]: 3.5, Mg: 1.8
   MICRO:
   Urine cx ([**10-9**]) final: no growth
   Blood cx pending ([**10-8**])
   Neg flu
   Sputum Cx GNR pending susceptibilities.
[**2147-10-9**].RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
[**2147-10-8**]
      KLEBSIELLA PNEUMONIAE.    HEAVY GROWTH.
      STAPH AUREUS COAG +.    QUANTITATION NOT AVAILABLE.
                             KLEBSIELLA PNEUMONIAE
CIPROFLOXACIN---------<=0.25 S
   STUDIES
   [**2147-10-12**]
   IMPRESSION:
   Diffuse ground-glass opacification in the left upper lobe and lingula
   have improved since the chest radiograph on the [**10-9**], probably
   improving consolidation due to infection, hemorrhage, or pulmonary
   edema.
   Chronic right lower lobe atelectasis is unchanged back to [**2147-3-5**]
   CT with associated bronchiectasis and mucoid impaction.
   The focal ground-glass and consolidation in the right upper lobe has
   also improved since the recent chest radiographs.
   Left lower lobe atelectasis has partially cleared since the previous
   CT. Moderate residual atelectasis,consolidatio, mucoid impaction, and
   peribronchial wall thickening suggest recent infection.
   The ET tube could be withdrawn 2-3 cm to a more optimal position.
   Abdominal ascites.
   CXR [**10-14**]: my read: improvement in bibasilar pleural
   effusion/atelectasis
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.  Now hemodynamically
   stable.
   # Hypoxia and respiratory failure: possibilities include atelectasis,
   small pleural effusions, pneumonia.  Could also be due to low phosphate
   secondary to Vit D deficiency.  Currently on AC 380X16 -> with FIO2 of
   40% and her PEEP at 5.  Weaned to PS this AM.
   - secretions yesterday caused a brief drop in oxygen saturation.
   Continued abx txt and suctioning.  Bronchoscopy showed no visible
   secretions.
   - chest CT shows improvement in diffuse ground glass opacification.
   Atelectasis in RLL stable.  LLL atelectasis has partially cleared.
   - given 20mg IV lasix X 2 yesterday with diuresis of 2150 cc over 36
   hours.
   - will continue with 20mg IV Lasix today with goal diuresis of 2 L
   - consider MIE as outpt does not have good cough mechanism
   - if clinically improves, consider PS trial
    -continue on Vit D replacement
   .
   # Fever/Sepsis: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.
   -switch meropenem to levofloxacin (day 1: [**10-12**]) yesterday for total 8
   day course (today is day 6 of abx). 2 more days of abx.
   -no double coverage was begun for pseudomonas at this time
   -consider adding vanc if she spikes fever
   -considered viral cause, her flu swab remains negative.
   -considered drug fever but no visible rashes.
   -consider abscess or endocarditis, but given her improvement upon
   changing antibiotics, we will hold off on further imaging.
   -successfully weaned off of levophed with MAP > 70 throughout the night
   and uop > 30 cc/h
   -Give IVF for any drops in CVP. Recheck SVO2 in the AM.
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   - Hct stable this AM
   - B12, iron, folate studies
   # T2 Paraplegia:
   -continue home pain regimen with baclofen, methadone, lyrica.
   -continue home bowel regimen.
   #Hypokalemia: repleted this AM.  Consider intrinsic renal disease vs.
   potassium wasting
   -replete K with monitoring
   FEN: Held tube feeds at mignight for possible extubation today.
   Yesterday begun tube feeds of Nutrem Pulm 20 cc/hr with goal rate of 40
   cc/hr.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-12**] 01:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT:  subQ heparin
   Stress ulcer: PPi
   VAP: VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2147-10-15 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-14**]:
   - goal output was -1.5 to -2.0 liters.
   - given 20mg IV X 1 at 11AM, good urine output but at midnight,
   negative only 145cc.  Given 40mg IV X 1 at midnight.
   - Pressure support weaned to [**11-6**], FiO2 weaned to 40%.
   - 4AM, TF were held for possible extubation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-10-12**] 07:47 AM
   Levofloxacin - [**2147-10-14**] 08:08 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-14**] 08:16 AM
   Furosemide (Lasix) - [**2147-10-15**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-15**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-15**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 61 (49 - 68) bpm
   BP: 98/55(72) {97/55(72) - 163/80(111)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,515 mL
                                                                    170 mL
   PO:
             TF:
                                                                    600 mL
   IVF:
                                                                    595 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                  2,045 mL
   Urine:
                                                                  1,740 mL
                                                                  2,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                 -1,875 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 330 (330 - 380) mL
   Vt (Spontaneous): 301 (298 - 409) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.42/55/92.[**Numeric Identifier 491**]/32/8
   NIF: -23 cmH2O
   Ve: 5.4 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: NAD
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Respiratory / Chest: (Breath Sounds: Crackles : left greater than right
   dependently)
   Abdominal: Soft, Non-tender, ND, + BS in all 4 quadrants
   Extremities: Lower extremities very cold.  Right lower extremity edema:
   Absent, Left lower extremity edema: Absent
   Neurologic: Sedated but arousable.  Follows simple commands.
   Labs / Radiology
   195 K/uL
   8.7 g/dL
   85 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.1 mEq/L
   8 mg/dL
   101 mEq/L
   139 mEq/L
   25.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2147-10-13**]  11:49 AM
                             [**2147-10-13**]  01:09 PM
                             [**2147-10-13**]  04:40 PM
                             [**2147-10-13**]  07:23 PM
                             [**2147-10-13**]  07:37 PM
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
   WBC
   4.8
   5.2
   Hct
   24.5
   25.6
   Plt
   160
   195
   Cr
   0.3
   0.5
   0.4
   0.4
   TCO2
   28
   26
   32
   30
   33
   37
   Glucose
   101
   116
   86
   85
   Other labs:
   ([**10-14**]) ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   MICRO:
   C Diff neg
   Sputum Cx ([**10-13**]): NG
   Urine cx ([**10-9**]) final: no growth
   Blood cx pending ([**10-8**])
   Neg flu
   Sputum Cx GNR pending susceptibilities.
[**2147-10-9**].RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
[**2147-10-8**]
      KLEBSIELLA PNEUMONIAE.    HEAVY GROWTH.
      STAPH AUREUS COAG +.    QUANTITATION NOT AVAILABLE.
                             KLEBSIELLA PNEUMONIAE
CIPROFLOXACIN---------<=0.25 S
KLEBSIELLA PNEUMONIAE
                             |          STAPH AUREUS COAG +
                             |          |
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     2 S
CIPROFLOXACIN---------<=0.25 S
CLINDAMYCIN-----------              =>8 R
ERYTHROMYCIN----------              =>8 R
GENTAMICIN------------   <=1 S    <=0.5 S
LEVOFLOXACIN----------              =>8 R
MEROPENEM-------------<=0.25 S
OXACILLIN-------------              =>4 R
PIPERACILLIN/TAZO-----   <=4 S
RIFAMPIN--------------            <=0.5 S
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S    <=0.5 S
VANCOMYCIN------------              <=1 S
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.  Now hemodynamically
   stable.
   # Hypoxia and respiratory failure: possibilities include atelectasis,
   small pleural effusions, pneumonia.  Could also be due to low phosphate
   secondary to Vit D deficiency.  Currently on AC 380X16 -> with FIO2 of
   40% and her PEEP at 5.  Weaned to PS this AM.
   - secretions yesterday caused a brief drop in oxygen saturation.
   Continued abx txt and suctioning.  Bronchoscopy showed no visible
   secretions.
   - chest CT shows improvement in diffuse ground glass opacification.
   Atelectasis in RLL stable.  LLL atelectasis has partially cleared.
   - given 20mg IV lasix X 2 yesterday with diuresis of 2150 cc over 36
   hours.
   - will continue with 20mg IV Lasix today with goal diuresis of 2 L
   - consider MIE as outpt does not have good cough mechanism
   - if clinically improves, consider PS trial
    -continue on Vit D replacement
   .
   # Fever/Sepsis: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.
   -switch meropenem to levofloxacin (day 1: [**10-12**]) yesterday for total 8
   day course (today is day 6 of abx). 2 more days of abx.
   -no double coverage was begun for pseudomonas at this time
   -consider adding vanc if she spikes fever
   -considered viral cause, her flu swab remains negative.
   -considered drug fever but no visible rashes.
   -consider abscess or endocarditis, but given her improvement upon
   changing antibiotics, we will hold off on further imaging.
   -successfully weaned off of levophed with MAP > 70 throughout the night
   and uop > 30 cc/h
   -Give IVF for any drops in CVP. Recheck SVO2 in the AM.
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   - Hct stable this AM
   - B12, iron, folate studies
   # T2 Paraplegia:
   -continue home pain regimen with baclofen, methadone, lyrica.
   -continue home bowel regimen.
   #Hypokalemia: repleted this AM.  Consider intrinsic renal disease vs.
   potassium wasting
   -replete K with monitoring
   FEN: Held tube feeds at mignight for possible extubation today.
   Yesterday begun tube feeds of Nutrem Pulm 20 cc/hr with goal rate of 40
   cc/hr.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-10-15 10:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failuire
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with diuresis effected across past 24 hours with 40mg Lasix
   showing good resposne.
   -PSV weaned to [**11-6**] and FIO2 decrease to 0.4
   -Patient npo this morning.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-14**] 08:08 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2147-10-15**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-15**] 05:19 AM
   Lansoprazole (Prevacid) - [**2147-10-15**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea, mild
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-10-15**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 53 (49 - 68) bpm
   BP: 111/60(80) {97/55(72) - 135/78(101)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,515 mL
                                                                    347 mL
   PO:
             TF:
                                                                    600 mL
   IVF:
                                                                    595 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                  2,695 mL
   Urine:
                                                                  1,740 mL
                                                                  2,695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                 -2,348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 305 (298 - 409) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.42/55/92.[**Numeric Identifier 491**]/32/8
   Ve: 3.9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   195 K/uL
   85 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.1 mEq/L
   8 mg/dL
   101 mEq/L
   139 mEq/L
   25.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2147-10-13**]  11:49 AM
                             [**2147-10-13**]  01:09 PM
                             [**2147-10-13**]  04:40 PM
                             [**2147-10-13**]  07:23 PM
                             [**2147-10-13**]  07:37 PM
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
   WBC
   4.8
   5.2
   Hct
   24.5
   25.6
   Plt
   160
   195
   Cr
   0.3
   0.5
   0.4
   0.4
   TCO2
   28
   26
   32
   30
   33
   37
   Glucose
   101
   116
   86
   85
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: 7.42/55/92
   Imaging: CXR-ETT good position, CVL in distal SVC and likely just into
   RA, with right sided opacities she has suggestion of both fluild and
   collapse
   Assessment and Plan
   50 yo female with history of paraplegia and respiratory failure with
   initial sepsis likely related to urinary tract infection with systemic
   insult and now with respiratory failure in that setting.  She has
   persistent restrictive ventilatory defect and does have some
   limitations in terms of supporting increased efforts for cough and
   secreation clearance but has quite a favorable set of findings of good
   mental status, minimal secreations, RSBI favorable, good tolerance of
   45 minutes of SBT and with suggestion of pneumonia clearance at 8 days
   of ABX and with modest volume overload improved.
   1)Respiratory Failure-
   -Based on above will--.
   -Move to extubation this morning
   -Will use intermittent positive pressure ventilation and or MIE to
   assist with cough and maintenance of ventilation with ETT removed
   -Maintain PO4 replacement
   -Propofol to off prior to extubation
   -Methodone to continue
   2)Sepsis-
   -Levoflox to continue through today for Klebsiella
   -
   URINARY TRACT INFECTION (UTI)
   -Levoflox
   -Methodone/Propofol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Patient request call to husband with updates
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2147-10-16 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-15**]:
   - extubated today
   - 2 hours later, complained of acute pleuritic RUQ. Got CXR which
   showed worsening right pleural effusion, RLL and RML collapse,
   posterior 5th rib fracture which are subacute. Repeat CXR confirmed the
   1st CXR.
   - repeat ABG on non-rebreather showed low oxygenation: 7.39/53/57/33.
   given lasix 20mg IV x1.
   - the team discussed the necessity of re-intubation given new right
   lung collapse/plugging and inability to cough, and plan of tracheostomy
   in a couple of days, pt refused
   - pt given morphine, ativan for pain and anxiety
   - repeat ABG was reassuring: 7.39/57/142/36. satting well on NRB 40%
   FiO2 at 100%. HR and BP well controlled as well.
   - goal -1L today
   - reviewed sputum culture data: coag+ staph aureus was found in sputum,
   resistant to levoquin, unsure why it was not addressed earlier. on the
   other hand, wbc wnl, no fever, so maybe no need to cover.
   - d/c dilaudid and morphine; cont perc and methadone for pain control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-15**] 08:13 AM
   Furosemide (Lasix) - [**2147-10-15**] 04:19 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-15**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2147-10-15**] 11:59 PM
   Lorazepam (Ativan) - [**2147-10-16**] 12:00 AM
   Morphine Sulfate - [**2147-10-16**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (51 - 109) bpm
   BP: 134/77(100) {99/60(79) - 141/87(109)} mmHg
   RR: 21 (11 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                    601 mL
                                                                    192 mL
   PO:
             TF:
   IVF:
                                                                    511 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                    370 mL
   Urine:
                                                                  4,425 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,824 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 305 (305 - 305) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 60%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.45/42/91/30/4 ([**10-16**])
   Ve: 3.9 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: NAD
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Respiratory / Chest: (Breath Sounds: Crackles : left greater than right
   dependently)
   Abdominal: Soft, Non-tender, ND, + BS in all 4 quadrants
   Extremities: Lower extremities very cold.  Right lower extremity edema:
   Absent, Left lower extremity edema: Absent
   Neurologic: Sedated but arousable.  Follows simple commands.
   Labs / Radiology
   246 K/uL
   9.0 g/dL
   78 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   99 mEq/L
   138 mEq/L
   26.8 %
   6.2 K/uL
        [image002.jpg]
                             [**2147-10-13**]  07:37 PM
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
                             [**2147-10-15**]  03:30 PM
                             [**2147-10-15**]  07:50 PM
                             [**2147-10-16**]  05:55 AM
                             [**2147-10-16**]  07:12 AM
   WBC
   4.8
   5.2
   6.2
   Hct
   24.5
   25.6
   32
   26.8
   Plt
   160
   195
   246
   Cr
   0.4
   0.4
   0.5
   TCO2
   32
   30
   33
   37
   33
   36
   30
   Glucose
   86
   85
   78
   Other labs: PT / PTT / INR:14.2/39.9/1.2
   Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   MICRO:
   C Diff neg
Sputum Cx ([**10-13**]):   RESPIRATORY CULTURE (Final [**2147-10-15**]):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    RARE GROWTH.
   Sputum Cx ([**10-9**]): RESPIRATORY CULTURE-FINAL {KLEBSIELLA PNEUMONIAE};
   FUNGAL CULTURE-PRELIMINARY {YEAST}
   Sputum Cx ([**10-8**]): pan-sensitive {KLEBSIELLA PNEUMONIAE, STAPH AUREUS
   COAG +}
   Urine cx ([**10-9**]) final: no growth
   Blood cx pending ([**10-8**])
   Neg flu
[**2147-10-9**].RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
[**2147-10-8**]
      KLEBSIELLA PNEUMONIAE.    HEAVY GROWTH.
      STAPH AUREUS COAG +.    QUANTITATION NOT AVAILABLE.
                             KLEBSIELLA PNEUMONIAE
CXR ([**10-15**]) The current study was obtained with significant rotation of the patie
nt. Despite that, there is an impression that there is increase in the right ple
ural effusion compared to the prior study. In addition, there might be also an e
lement of atelectasis giving the rapid termination of the right main bronchus an
d potential mediastinal deviation to the right. The right internal jugular line
tip is at the level of mid SVC. Left lung is unchanged. There is no evidence of
pneumothorax. Followup with chest radiograph, within the short interval time is
recommended with symmetric position of the patient.
Some of the multiple rib fractures on the right are not clearly accompanied with
 callus amd might be subacute. If nessesary, correlation with dedicated rib view
s might be considered.
CXR Today:
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.  Now hemodynamically
   stable.
   # Hypoxia and respiratory failure: possibilities include atelectasis,
   small pleural effusions, pneumonia.  Could also be due to low phosphate
   secondary to Vit D deficiency.  Currently extubated. CXR showed
   increased right pleural effusions vs. RML/RLL lung collapse with
   subacute posterior rib fractures.  Due to little change after extensive
   diuresis and unilateral picture, most likely lung collapse.  She is
   currently day [**7-10**] of her levo abx treatment
   - pt. currently does not want to be re-intubated unless under dire
   circumstances.  We will try noninvasive measures, CPAP.
   - repeat ABG after CPAP
   - continued abx txt and suctioning.  Currently day [**7-10**].
   - will consider diuresis with 20mg IV Lasix today with goal diuresis of
   1 L pending clinical status
   - consider MIE as outpt does not have good cough mechanism
   - continue on Vit D replacement
   .
   # Fever/Sepsis: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.
   -cont levo day [**7-10**]
   -no double coverage was begun for pseudomonas at this time
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl. Hct dropped today.
   - Recheck Hct tomorrow AM
   # T2 Paraplegia:
   -continue home pain regimen with baclofen, methadone, lyrica.
   -continue home bowel regimen.
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - continue monitoring
   FEN: ADAT
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT: subq hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2147-10-16 09:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient extubated with course complicated by recurrent collapse and
   hypoxemia
   Extensive discussion with patient and husband regarding tenuous status
   and concern about worsening hypoxemia with impaired capacity to
   maintain cough and secretion clearance.  Currently will continue to
   perform any and all interventions to avoid intubation.  Will continue
   to avoid intubation at this time but will be agreeable to re-intubation
   if continued or sudden acute worsening seen.
   Patient with pain control with the minimum of sedating effects
   including lidocaine patch for local control
   Patient has had continued negative fluid balance
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-10-15**] 04:19 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-15**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2147-10-15**] 11:59 PM
   Lorazepam (Ativan) - [**2147-10-16**] 12:00 AM
   Morphine Sulfate - [**2147-10-16**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2147-10-16**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 85 (51 - 109) bpm
   BP: 139/95(113) {99/66(79) - 141/95(113)} mmHg
   RR: 27 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                    601 mL
                                                                    383 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    511 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                    530 mL
   Urine:
                                                                  4,425 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,824 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 80%
   SpO2: 97%
   ABG: 7.45/42/91/30/4
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   246 K/uL
   78 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   99 mEq/L
   138 mEq/L
   26.8 %
   6.2 K/uL
        [image002.jpg]
                             [**2147-10-13**]  07:37 PM
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
                             [**2147-10-15**]  03:30 PM
                             [**2147-10-15**]  07:50 PM
                             [**2147-10-16**]  05:55 AM
                             [**2147-10-16**]  07:12 AM
   WBC
   4.8
   5.2
   6.2
   Hct
   24.5
   25.6
   32
   26.8
   Plt
   160
   195
   246
   Cr
   0.4
   0.4
   0.5
   TCO2
   32
   30
   33
   37
   33
   36
   30
   Glucose
   86
   85
   78
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: 7.39/53/57-->
   7.45/42/91
   Imaging: CXR--Persistent and significant right sided collapse
   Microbiology: Sputum, Urine, Blood--NGTD
   Assessment and Plan
   50 yo female with history of MVC and T2 paraplegia now with admission
   with recurrent fever and sepsis with likely urinary source with
   complication of respiratory failure and now with persistent respiratory
   compromise following extubation with right sided collapse seen in RLL
   and RML in the setting of rib fractures and weakness.
   1)Respiratory Failure-Patient has good evidence of controlled
   infection.  She has limited capacity for secretion clearance and is
   faced with continued need for cough and sputum clearance which is mixed
   with right sided collapse and persistent hypoxemia.  With continued
   close support she has maintained elevated O2 requirement and
   persistence of collapse through to this morning with increase in PO2
   likely only attributable to the increased flow rate of O2 delivery.
   -Will need cough and deep breath
   -Will trial intermittent positive pressure ventilation via the mask
   today
   -Will trial incentive spirometry
   -Will need to maintain adequate pain control
   -Will have to continue to press and educate patient that this clinical
   course is going to be most clearly and safely conducted via intubation
   and tracheostomy but at this time she has made an informed decision to
   refuse intubation at this time despite increased risk of adverse event
   and death in the setting of urgent decline.
   Should we see a pattern of no change over time we will have to make a
   decision to intubate to allow advancement of her care given issues such
   as .
   2)Pneumonia-Klebsiella and Staph species seen
   -Patient with Meropenem
Levofloxacin on day #6
   -Remains with afebrile status and WBC wnl.
   3)Pain Control-She has reasonable control of pain intermittently but
   will need to have maximization of control with minimization of
   respiratory supression.
   Methadone
   Baclofen
   Lidocaine Patch
   Lyrica
 ALTERATION IN NUTRITION
Needs feeds, will have to consider
   maintaining tube feeds if unable to take po
s in safely
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-9**] 07:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2147-10-17 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-10-16**] 03:15 PM
   [**10-16**]:
   - given 20 mg IV Lasix in AM, diuresed about 1L until MN
   - tried intermittent noninvasive CPAP, pt tolerated well
   - unable to replace A-line
   - SW c/s ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-10-16**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-17**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 62 (61 - 93) bpm
   BP: 113/64(75) {93/57(68) - 134/89(110)} mmHg
   RR: 13 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,080 mL
                                                                    131 mL
   PO:
                                                                    420 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    540 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    450 mL
   Urine:
                                                                  2,120 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,040 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.45/42/91/31/4
   PaO2 / FiO2: 114
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right
 with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   265 K/uL
   9.2 g/dL
   72 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   7 mg/dL
   99 mEq/L
   140 mEq/L
   27.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
                             [**2147-10-15**]  03:30 PM
                             [**2147-10-15**]  07:50 PM
                             [**2147-10-16**]  05:55 AM
                             [**2147-10-16**]  07:12 AM
                             [**2147-10-17**]  03:42 AM
   WBC
   4.8
   5.2
   6.2
   4.9
   Hct
   24.5
   25.6
   32
   26.8
   27.5
   Plt
   160
   195
   246
   265
   Cr
   0.4
   0.4
   0.5
   0.4
   TCO2
   30
   33
   37
   33
   36
   30
   Glucose
   86
   85
   78
   72
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   MICRO:
   C Diff neg
Sputum Cx ([**10-13**]):   RESPIRATORY CULTURE (Final [**2147-10-15**]):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    RARE GROWTH.
   Sputum Cx ([**10-8**]): pan-sensitive {KLEBSIELLA PNEUMONIAE, STAPH AUREUS
   COAG +}
   Urine cx ([**10-9**]) final: no growth
   Blood cx pending ([**10-8**])
   Neg flu
CXR Today
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.  Now hemodynamically
   stable.
   # Hypoxia and respiratory failure: possibilities include atelectasis,
   small pleural effusions, pneumonia.  Could also be due to low phosphate
   secondary to Vit D deficiency.  Currently extubated. CXR showed
   increased right pleural effusions vs. RML/RLL lung collapse with
   subacute posterior rib fractures.  Due to little change after extensive
   diuresis and unilateral picture, most likely lung collapse.  She is
   currently day [**7-10**] of her levo abx treatment
   - pt. currently does not want to be re-intubated unless under dire
   circumstances.  We will try noninvasive measures, CPAP.
   - repeat ABG after CPAP
   - continued abx txt and suctioning.  Currently day [**7-10**].
   - will consider diuresis with 20mg IV Lasix today with goal diuresis of
   1 L pending clinical status
   - consider MIE as outpt does not have good cough mechanism
   - continue on Vit D replacement
   .
   # Fever/Sepsis: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.
   - cont levo day [**7-10**]
   - no double coverage was begun for pseudomonas at this time
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl. Hct dropped today.
   - recheck Hct tomorrow AM
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone 5mg q4h PRN for pain
   - continue home bowel regimen.
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition: Nutren Pulmonary to goal rate of 40ml/hr x 24 hours
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Prophylaxis:
   DVT: subq hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2147-10-17 10:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-10-16**] 03:15 PM
   Patient with intermittent CPAP to aid in recruitment
   Patient with continued maintenance of oxygenation
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2147-10-17**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 65 (60 - 93) bpm
   BP: 133/93(103) {93/64(75) - 134/97(110)} mmHg
   RR: 16 (11 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,080 mL
                                                                    386 mL
   PO:
                                                                    420 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    720 mL
   Urine:
                                                                  2,120 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,040 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   265 K/uL
   72 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   7 mg/dL
   99 mEq/L
   140 mEq/L
   27.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
                             [**2147-10-15**]  03:30 PM
                             [**2147-10-15**]  07:50 PM
                             [**2147-10-16**]  05:55 AM
                             [**2147-10-16**]  07:12 AM
                             [**2147-10-17**]  03:42 AM
   WBC
   4.8
   5.2
   6.2
   4.9
   Hct
   24.5
   25.6
   32
   26.8
   27.5
   Plt
   160
   195
   246
   265
   Cr
   0.4
   0.4
   0.5
   0.4
   TCO2
   30
   33
   37
   33
   36
   30
   Glucose
   86
   85
   78
   72
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR-Improved aeration of right lung noted with upper lobe and
   likely middle lobe recovery.
   Assessment and Plan
   50 yo with T2 paraplegia and respiratory failure.  This is in the
   setting of initial presentation with urinary source of sepsis.  She has
   had conservative support for significant right sided collapse with IPPV
   and patient effort.
   1)Respiratory Failure
Improving oxygenation and ventilation with
   supportive Rx.
   -OOB to chair today
   -Continue with intermittent positive pressure ventilation
   -Will need to wean O2 as tolerated
   -Will use incentive spirometry
   -Continue ABX
   -Will continue negative fluid balance.
   -Follow exam
   -Speech and swallow prior to restart of feeds
   -MIE if continued success not seen in recruitment of lung
   -Levo D7 or 8 and will D/C tomorrow
   -Lidocaine patch for pain + methadone + oxycodone
 ANXIETY
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition: po intake to start today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2147-10-18 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-17**]:
   - continued CPAP today
   - speech and swallow consult -> tolerated thin liquids and regular
   consistency solids without any overt signs of aspiration. 1. Suggest a
   PO diet of thin liquids and regular consistency solids. 2. Pills whole
   with thin liquids. 3. Q8 oral care.
   - Refused to be turned for most of the night.  Only did IS X2 in early
   to late evening.  Refused CPT all night.  Refused sc heparin.
   Noncompliant w/care upon awakening @ 0600.  Refused CXR, temperature,
   auscultation of lungs,IS,  lidocaine patch removal.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-17**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 93 (60 - 120) bpm
   BP: 136/89(101) {106/72(77) - 139/101(107)} mmHg
   RR: 22 (11 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,030 mL
                                                                    190 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    490 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    725 mL
   Urine:
                                                                  1,300 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95% (15L/min, FiO2 80%)
   ABG: ////
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   265 K/uL
   9.2 g/dL
   72 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   7 mg/dL
   99 mEq/L
   140 mEq/L
   27.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2147-10-14**]  03:23 AM
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
                             [**2147-10-15**]  03:30 PM
                             [**2147-10-15**]  07:50 PM
                             [**2147-10-16**]  05:55 AM
                             [**2147-10-16**]  07:12 AM
                             [**2147-10-17**]  03:42 AM
   WBC
   4.8
   5.2
   6.2
   4.9
   Hct
   24.5
   25.6
   32
   26.8
   27.5
   Plt
   160
   195
   246
   265
   Cr
   0.4
   0.4
   0.5
   0.4
   TCO2
   30
   33
   37
   33
   36
   30
   Glucose
   86
   85
   78
   72
   Other labs:
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   MICRO:
   C Diff neg
Sputum Cx ([**10-13**]): Rare yeast.
   Neg flu ([**10-10**])
   Sputum Cx ([**10-8**]): pan-sensitive {heavy KLEBSIELLA PNEUMONIAE, rare STAPH
   AUREUS COAG +}
   Urine cx ([**10-9**]): NG x2
   Blood cx ([**10-8**]): NG x4
CXR Today: shows greater right lung collapse
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   # Hypoxia and respiratory failure: contributing factors include RML/RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was extubated on [**10-15**]. Due to little change after extensive
   diuresis and unilateral picture, most likely lung collapse.  CXR today
   shows greater right lung collapse.  Was only able to be placed on CPAP
   for brief period during the day.
   - pt. currently does not want to be re-intubated unless under dire
   circumstances.
   - discuss with patient necessity of a bronch to clear up secretions in
   lieu of her lung collapse
   - consider a-line placement vs. abg pending clinical status.
   - continue encouraging cough, deep breath, and inspiratory spirometer
   - flutter valve and chest PT to break up mucous plugging
   - consider MIE as outpt does not have good cough mechanism
   - continue Vit D and phosphate replacement
   - continue pain control on current regimen
   .
   # Pneumonia: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.
   - finish levo day [**9-9**]
   - d/c cvl
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl. Hct dropped today.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. Management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition: Full
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Prophylaxis:
   DVT: subq hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2147-10-18 10:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient wean to 2 lpm supplemental O2
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-17**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-18**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 88 (67 - 120) bpm
   BP: 133/88(100) {106/73(82) - 139/101(107)} mmHg
   RR: 26 (11 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,030 mL
                                                                    226 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    865 mL
   Urine:
                                                                  1,300 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -639 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   255 K/uL
   76 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.5 mEq/L
   5 mg/dL
   98 mEq/L
   139 mEq/L
   29.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2147-10-14**]  06:16 AM
                             [**2147-10-14**]  02:42 PM
                             [**2147-10-15**]  05:58 AM
                             [**2147-10-15**]  06:28 AM
                             [**2147-10-15**]  03:30 PM
                             [**2147-10-15**]  07:50 PM
                             [**2147-10-16**]  05:55 AM
                             [**2147-10-16**]  07:12 AM
                             [**2147-10-17**]  03:42 AM
                             [**2147-10-18**]  06:46 AM
   WBC
   5.2
   6.2
   4.9
   8.2
   Hct
   25.6
   32
   26.8
   27.5
   29.1
   Plt
   195
   246
   265
   255
   Cr
   0.4
   0.5
   0.4
   0.4
   TCO2
   30
   33
   37
   33
   36
   30
   Glucose
   85
   78
   72
   76
   Other labs: PT / PTT / INR:14.2/39.9/1.2, ALT / AST:[**7-17**], Alk Phos / T
   Bili:53/0.1, Differential-Neuts:78.9 %, Lymph:17.6 %, Mono:2.2 %,
   Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR--Complete opacification or the right chest with collapse.
   Assessment and Plan
   50 yo female with h/o T2 paraplegia now with urinary source of sepsis
   and subsequent respiratory failure now with slow to improve
   atelectasis/collpase in right lung fields. She did have some transient
   improvment with conservative measures but now has had recurrence of
   complete collapse of right lung with mild/moderate impairment of
   oxygenation in that setting.  The source of collapse is still most
   likely weakess in capacity for secretion clearance both due to
   paraplegia and rib fracture which makes this a likely chronic challenge
   until full strength regained.
   1)Respiratory Failure and Hypoxemia secondary to atelectasis- Current
   conservative strategy has had limited result in truly being able to
   achieve sustained benefit in terms of oxygenation, aeration and
   resolutoin of collapse.  We had discussed extensively with her the
   pathway or intubation, bronchoscopy and likely tracheostomy as most
   likely course.
   -Will continue with IPPV
   -Will trial mucormyst today to aid in clearance
   -Trial flutter valve
   -To pursue with bronchoscopy would be perhaps best pursued with
   bronchoscopy via ETT given the amount of secretions needed to be
   cleared.  Will pursue if unable to return to improvement without
   intervention
   2)
 ANXIETY
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition: po diet appears reasonable based on speech and swallow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2147-10-19 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2147-10-18**] 06:13 PM
 ARTERIAL LINE - START [**2147-10-19**] 03:00 AM
 FEVER - 102.0
F - [**2147-10-19**] 02:00 AM
   [**10-18**]:
   - pt requested that she be re-intubated in the pm as she was more
   dyspneic on non-rebreather. anesthesiology came and intubated her. soon
   afterwards, patient had bradycardia and went into PEA, and pt was
   coded. Patient was resuscitated with CPR, 3 epi and 2 atropine, 1 amp
   bicarb, 5u insulin and 1amp dextrose. During the code, it was difficult
   to bag patient, indicating central airway was plugged. after about 4min
   pulse came back, patient was intially hypertensive with SBP in 170s,
   tachycardic at 150s with SVT, possibly AVNRT, she became hypotensive
   with SBP in the 80-90s as well. Patient was bronch'd immediately,
   copious secretions were suctioned, and post-bronch cxr showed part of
   the right lung re-opened up. Following bronch, BP and HR improved. EKG
   following bronch showed inferior ischemia (TWI in II, III, avF), and
   anterolateral ischemia (ST depression in V3-V6). CK: 28  MB: 4  Trop-T:
   0.13
   - ABG was obtained post-code and vent setting was changed accordingly.
   - A-line was placed for ABGs and BP monitoring
   - pt on pressor for hypotension, off pressor at 5:30am
   - Patient was going to be cooled to prevent reperfusion brain injury,
   but pt woke up and was following commands, so cooling was held
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-18**] 09:00 PM
   Vancomycin - [**2147-10-18**] 10:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-19**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-19**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38
C (100.4
   HR: 64 (64 - 154) bpm
   BP: 146/90(110) {59/39(45) - 146/95(111)} mmHg
   RR: 21 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
    CVP: 27 (27 - 27)mmHg
   Total In:
                                                                  1,567 mL
                                                                    795 mL
   PO:
                                                                    250 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,317 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    308 mL
   Urine:
                                                                  1,885 mL
                                                                    303 mL
   NG:
                                                                      5 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -323 mL
                                                                    487 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.46/44/119/27/6
   Ve: 5.3 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   359 K/uL
   9.5 g/dL
   80 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   6 mg/dL
   101 mEq/L
   140 mEq/L
   28.3 %
   22.8 K/uL
        [image002.jpg]
                             [**2147-10-16**]  07:12 AM
                             [**2147-10-17**]  03:42 AM
                             [**2147-10-18**]  06:46 AM
                             [**2147-10-18**]  05:38 PM
                             [**2147-10-18**]  05:59 PM
                             [**2147-10-18**]  08:37 PM
                             [**2147-10-18**]  09:47 PM
                             [**2147-10-19**]  12:20 AM
                             [**2147-10-19**]  04:17 AM
                             [**2147-10-19**]  04:36 AM
   WBC
   4.9
   8.2
   13.8
   22.8
   Hct
   27.5
   29.1
   28.5
   30
   33
   28.3
   Plt
   265
   255
   348
   359
   Cr
   0.4
   0.4
   0.4
   0.5
   0.4
   TropT
   0.13
   0.09
   TCO2
   30
   33
   28
   30
   32
   Glucose
   72
   76
   452
   368
   165
   141
   80
   Other labs: PT / PTT / INR:16.1/33.9/1.4, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   MICRO:
   [**Last Name (un) 524**]/ sputum cx pending
   Sputum
   GRAM STAIN (Final [**2147-10-18**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
   Urine Cx pending
   Imaging:
   CXR Today
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   #PEA: Differential includes hypovolemia, hypoxia, acidosis,
   hyper/hypokalemia, hypoglycemia, hypothermia, toxins, tamponade,
   tension pneumo, thrombosis, trauma.  In lieu of difficulty bagging with
   copious secretions, most likely cause is hypoxia.  [**Last Name (un) 524**]/ sputum cx
   were sent.  Patient has agreed to trach in the setting of numerous
   failed extubations. Vanc was added to her regimen. Her WBC has bumped
   up to 22.8.  ECG showed some ischemic changes.  Trops peaked at .13 and
   is trending down.
   - repeat ECG
   - trend troponins
   .
   # Hypoxia and respiratory failure: contributing factors include RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was re-intubated on [**10-18**]. After bronch, CXR shows some right
   upper lobe opening.
   - IP c/s today for trach
   - f/u with bronch/sputum cx
   - cont with suctioning secretions
   - after trach in place, consider switch to pressure support
   - continue Vit D and phosphate replacement
   - continue pain control on current regimen+ propofol for sedation
   .
   # Pneumonia: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.  Vanc was added due to her hx of
   staph aureus.
   - add cefepime to include broader coverage (pseudomonas)
   - continue with vanc and levo
   - maintain cvl
   .
   #Hypotension: currently on phenylephrine.  Differential includes
   decreased volume status, sepsis, or cardiac.  WBC has increased with
   fevers.  CVP is 14.  She does have hx of cardiac injury.
   - switch to levaphed
   - monitor CVP levels for need of IVF
   - f/u with bld, urine, sputum cx
   - cont with current abx regimen.
   - replace a-line to check for accurate measurements
   .
   #Mild metabolic alkalosis: Most likely due to contraction alkalosis.
   - check urine lytes (Cl)
   - check CVP for volume status and bolus with IVF if volume depleted
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl. Hct dropped today.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition: Wait for trach. If not today, start TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2147-10-19 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   PEA Arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2147-10-18**] 06:13 PM
 ARTERIAL LINE - START [**2147-10-19**] 03:00 AM
 FEVER - 102.0
F - [**2147-10-19**] 02:00 AM
   -PEA Arrest--likely central airway obstruction and hypoxemia with rapid
   resolution with clearance of airway obstruction and good patient
   responsivness following return of effective circulation
   -She did have evidence of myocardial insult in peri-event time
   -Phenylephrine in place following arrest--remains at 0.2 ug/kg/min
   -Given improved mental status following arrest no cooling after
   consultation with Dr. [**Last Name (STitle) 276**] and a decision I agree with.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-18**] 09:00 PM
   Vancomycin - [**2147-10-19**] 08:00 AM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-19**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2147-10-19**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.3
   HR: 83 (64 - 154) bpm
   BP: 108/75(88) {59/39(45) - 146/95(111)} mmHg
   RR: 14 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
   CVP: 15 (15 - 27)mmHg
   Total In:
                                                                  1,567 mL
                                                                  1,193 mL
   PO:
                                                                    250 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,317 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    738 mL
   Urine:
                                                                  1,885 mL
                                                                    733 mL
   NG:
                                                                      5 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -323 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 450) mL
   Vt (Spontaneous): 336 (336 - 336) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 35.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/44/119/27/6
   Ve: 5.2 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : right, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   359 K/uL
   80 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   6 mg/dL
   101 mEq/L
   140 mEq/L
   28.3 %
   22.8 K/uL
        [image002.jpg]
                             [**2147-10-16**]  07:12 AM
                             [**2147-10-17**]  03:42 AM
                             [**2147-10-18**]  06:46 AM
                             [**2147-10-18**]  05:38 PM
                             [**2147-10-18**]  05:59 PM
                             [**2147-10-18**]  08:37 PM
                             [**2147-10-18**]  09:47 PM
                             [**2147-10-19**]  12:20 AM
                             [**2147-10-19**]  04:17 AM
                             [**2147-10-19**]  04:36 AM
   WBC
   4.9
   8.2
   13.8
   22.8
   Hct
   27.5
   29.1
   28.5
   30
   33
   28.3
   Plt
   265
   255
   348
   359
   Cr
   0.4
   0.4
   0.4
   0.5
   0.4
   TropT
   0.13
   0.09
   TCO2
   30
   33
   28
   30
   32
   Glucose
   72
   76
   452
   368
   165
   141
   80
   Other labs: PT / PTT / INR:16.1/33.9/1.4, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: 7.46/44/119
   CXR
ETT and CVL and OGT in good position
we have persistent collapse in
   right lower lobe and part of right middle lobe
   Assessment and Plan
   50 yo female with respiratory failure complicated by PEA arrest at the
   time of re-intubation.  She has had rapid return to responsive state
   follwing arrest.  With ventilatory support overnight she has had
   improved oxygenation but retains mildly elevated Pplat and has
   persistent collapse
we have been able to move to acceptable ventilatory
   support levels.
   1)Respiratory Failure-Secondary to atelectasis, collapse, pulmonary
   infection and with T2 paraplegia and now with multiple rib fractures
   worsening chest wall compliance and capacity to clear secretions.
   -Continue A/C but will move to PSV today
   -Will continue with suction and send sputum sample for analysis
   -Vanco/Levo/Cefepime to continue given signficant fever, infiltrate and
   sepsis
   -Have discussed extensively with patient and her husband that given the
   need for continued close ventilatory support tracheostomy is indicated
   and will pursue with IP at this time.
   2)Hypotension-This is most clearly related to sepsis given fever, WBC
   count elevation and pulmonary opacities. Hypotension may be contributed
   to by hypovolemia in the setting of recent diuresis but this should
   have been resolved.  Myocardial stunning in the setting of arrest
   certainly can be seen and may be contributing as well.
   -Will keep to CVP of 12
   -Will move to levophed this morning for support of BP with sepsis and
   vasodilatory state most likely.
   3)Alkalemia
Mild Metabolic Alkalosis-
   -Will check urine chloride to evaluate further
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2147-10-20 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-19**]:
   - started Cefepime
   - blood cultures, c diff ordered
   - pressure support ventilation -> ABG:pH 7.41 pCO2 45 pO2 93 HCO3 30
   Vent:Spontaneous; FiO2%:40; Rate:/28; TV:300; PEEP:5
   - IP c/s for trach- will be an "add-on" for tomorrow
   - NPO at MN, hold AM SC Heparin
   - CVO2 61 ->
   - received 500cc bolus x4 all day for lowish BPs
   - switched pressors from neo to levophed
   - off propofol, doing well, required IV Ativan 0.5mg x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-19**] 08:07 PM
   Levofloxacin - [**2147-10-19**] 08:07 PM
   Cefipime - [**2147-10-20**] 04:45 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-20**] 04:45 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-20**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-20**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 60 (60 - 97) bpm
   BP: 136/71(95) {90/56(70) - 141/86(106)} mmHg
   RR: 14 (10 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
    CVP: 7 (6 - 65)mmHg
   Mixed Venous O2% Sat: 67 - 67
   Total In:
                                                                  2,903 mL
                                                                  1,630 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  2,633 mL
                                                                  1,630 mL
   Blood products:
   Total out:
                                                                  1,283 mL
                                                                    185 mL
   Urine:
                                                                  1,278 mL
                                                                    185 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,620 mL
                                                                  1,445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 318 (251 - 336) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/45/89.[**Numeric Identifier 299**]/24/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   172 K/uL
   7.3 g/dL
   89 mg/dL
   0.3 mg/dL
   24 mEq/L
   2.9 mEq/L
   4 mg/dL
   111 mEq/L
   141 mEq/L
   23.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2147-10-18**]  05:59 PM
                             [**2147-10-18**]  08:37 PM
                             [**2147-10-18**]  09:47 PM
                             [**2147-10-19**]  12:20 AM
                             [**2147-10-19**]  04:17 AM
                             [**2147-10-19**]  04:36 AM
                             [**2147-10-19**]  04:36 PM
                             [**2147-10-20**]  12:33 AM
                             [**2147-10-20**]  05:23 AM
                             [**2147-10-20**]  05:42 AM
   WBC
   22.8
   7.6
   Hct
   30
   33
   28.3
   24.5
   23.1
   Plt
   359
   172
   Cr
   0.5
   0.4
   0.3
   TropT
   0.13
   0.09
   TCO2
   33
   28
   30
   32
   30
   26
   Glucose
   368
   165
   141
   80
   89
   Other labs: PT / PTT / INR:14.9/39.1/1.3, Ca++:7.3 mg/dL, Mg++:1.7
   mg/dL, PO4:2.0 mg/dL
   URINE CHEMISTRY
                                    Hours
                                    Creat
                                     Na
                                     Cl
   [1][**2147-10-19**] 12:32PM
                                   RANDOM
                                     23
                                     37
                                     25
   Source: Catheter
   OTHER URINE CHEMISTRY
                                   Osmolal
   [2][**2147-10-19**] 12:32PM
                                     221
   Source: Catheter
   FeNa: 0.3
   MICRO:
   [**Last Name (un) 524**]/ sputum cx pending
   Sputum
   GRAM STAIN (Final [**2147-10-18**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
   Urine Cx pending, Bld cx x4 pending
   Imaging:
   CXR Today
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   #PEA: Differential includes hypovolemia, hypoxia, acidosis,
   hyper/hypokalemia, hypoglycemia, hypothermia, toxins, tamponade,
   tension pneumo, thrombosis, trauma.  In lieu of difficulty bagging with
   copious secretions, most likely cause is hypoxia.  [**Last Name (un) 524**]/ sputum cx
   were sent.  Patient has agreed to trach in the setting of numerous
   failed extubations. Vanc was added to her regimen. Her WBC has bumped
   up to 22.8.  ECG showed some ischemic changes.  Trops peaked at .13 and
   is trending down.
   - repeat ECG
   - trend troponins
   .
   # Hypoxia and respiratory failure: contributing factors include RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was re-intubated on [**10-18**]. After bronch, CXR shows some right
   upper lobe opening.
   - Trach-ed today and put on A/C 430/12. Sedated on propofol.
   - wean back to PS 10/5 after weaned off from propofol
   - f/u with bronch/sputum cx
   - cont with suctioning secretions
   - continue Vit D and phosphate replacement
   - continue pain control on current regimen
   .
   # Pneumonia: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.  Vanc was added due to her hx of
   staph aureus.
   - recheck sputum cx
   - add cefepime to include broader coverage (pseudomonas)
   - continue with vanc and levo
   - f/u vanc trough level
   - maintain cvl
   .
   #Hypotension: currently on phenylephrine.  Differential includes
   decreased volume status, sepsis, or cardiac.  WBC has increased with
   fevers.  CVP is 7.  She does have hx of cardiac injury.
   - switch to levaphed to maintain BP.
   - monitor CVP levels for need of IVF; goal of [**9-11**].
   - f/u with bld, urine, sputum cx
   - cont with current abx regimen.
   .
   #Mild metabolic alkalosis: Most likely due to contraction alkalosis.
   Resolved with IVF.
   - check CVP for volume status and bolus with IVF if volume depleted
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl. Hct dropped today, most likely due to
   volume.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition: Wait for trach. If not today, start TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);

2147-10-20 12:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   _Tracheostomy placed this morning
   -Transient hypotension controlled with nor-epinephrine yesterday
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-19**] 08:07 PM
   Cefipime - [**2147-10-20**] 04:45 AM
   Vancomycin - [**2147-10-20**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-20**] 04:45 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-20**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Flowsheet Data as of  [**2147-10-20**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 65 (60 - 97) bpm
   BP: 131/81(100) {90/56(70) - 152/86(110)} mmHg
   RR: 21 (10 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
   CVP: 7 (6 - 65)mmHg
   Mixed Venous O2% Sat: 67 - 67
                                Total In:
                                                                  2,903 mL
                                                                  1,886 mL
   PO:
                                                                    240 mL
                                TF:
   IVF:
                                                                  2,633 mL
                                                                  1,886 mL
   Blood products:
   Total out:
                                                                  1,283 mL
                                                                    615 mL
   Urine:
                                                                  1,278 mL
                                                                    615 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,620 mL
                                                                  1,271 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 39 (39 - 336) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.36/45/89.[**Numeric Identifier 299**]/24/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 89
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   172 K/uL
   89 mg/dL
   0.3 mg/dL
   24 mEq/L
   2.9 mEq/L
   4 mg/dL
   111 mEq/L
   141 mEq/L
   23.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2147-10-18**]  05:59 PM
                             [**2147-10-18**]  08:37 PM
                             [**2147-10-18**]  09:47 PM
                             [**2147-10-19**]  12:20 AM
                             [**2147-10-19**]  04:17 AM
                             [**2147-10-19**]  04:36 AM
                             [**2147-10-19**]  04:36 PM
                             [**2147-10-20**]  12:33 AM
                             [**2147-10-20**]  05:23 AM
                             [**2147-10-20**]  05:42 AM
   WBC
   22.8
   7.6
   Hct
   30
   33
   28.3
   24.5
   23.1
   Plt
   359
   172
   Cr
   0.5
   0.4
   0.3
   TropT
   0.13
   0.09
   TCO2
   33
   28
   30
   32
   30
   26
   Glucose
   368
   165
   141
   80
   89
   Other labs: PT / PTT / INR:14.9/39.1/1.3, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR-Mild residual atelectasis at right base with likely small
   effusion as well.
   Assessment and Plan
   50 yo female with T2 paraplegia now with tracheostomy required for safe
   wean of ventilator and support of secretion clearance in the setting of
   weakness.  Tracheostomy now in place and will continue to move to wean
   ventilator and move to trach mask trial with PMV placement at earliest
   possible time.
   1)Respiratory Failure-This is secondary to recurrent airway collpase
   and opacification in the right lung most clearly.  We have worked with
   she and her husband in detail to move to plan in agreement with patient
   wishes.
   -Tracheostomy placed
   -Will move to trach mask trials as possible
   -Will move to have patient up and in chair as possible with
   paraplegia--this may be driven by bed positioning
   -Vanco/Levoflox/Cefepime
   -Will move to wean to PSV today when patient recovered from paralytics
   -Will continue with broad spectrum ABX
   -[**Month (only) 8**] need repeat bronchoscopy
   2)PEA arrest/Hypotension-
   -Has been weaned off of pressors
   -Will titrate to CVP decreased
   Additional issues to be addressed as defined in the housestaff note of
   this date
 ANXIETY
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition: Tube Feeds to restart
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2147-10-21 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2147-10-20**] 11:31 AM
   [**10-20**]:
   - trach placed this AM
   - fu xray - NG tube placement past GE junction
   - levophed discontinued around 8AM
   - after propofol, just changed to PS 12/5 at 4:30PM, switched to
   assist/control at 400/12 around 22:00 and placed back to PS 12/5 this
   morning
   - gas at 7PM: 7.38/41/119
   - f/u sputum cx
   - cont vanc, cefepime, levo; check vanco levels
   - fu midnight hct (22.7, 5PM)
   - restarted tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-20**] 08:00 PM
   Levofloxacin - [**2147-10-20**] 09:00 PM
   Cefipime - [**2147-10-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-20**] 09:00 PM
   Carafate (Sucralfate) - [**2147-10-21**] 06:03 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-21**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-21**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 65 (55 - 88) bpm
   BP: 116/74(91) {92/57(70) - 160/105(127)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
    CVP: 13 (13 - 14)mmHg
   Total In:
                                                                  3,169 mL
                                                                    472 mL
   PO:
   TF:
                                                                    180 mL
                                                                    274 mL
   IVF:
                                                                  2,989 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    265 mL
   Urine:
                                                                  1,795 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,374 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 430) mL
   Vt (Spontaneous): 361 (39 - 453) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 276
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/40/123/22/1
   Ve: 5 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   170 K/uL
   7.4 g/dL
   116 mg/dL
   0.2 mg/dL
   22 mEq/L
   3.5 mEq/L
   5 mg/dL
   110 mEq/L
   138 mEq/L
   23.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2147-10-19**]  04:36 AM
                             [**2147-10-19**]  04:36 PM
                             [**2147-10-20**]  12:33 AM
                             [**2147-10-20**]  05:23 AM
                             [**2147-10-20**]  05:42 AM
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
   WBC
   7.6
   7.3
   Hct
   24.5
   23.1
   22.7
   22.7
   23.4
   Plt
   172
   170
   Cr
   0.3
   0.2
   TCO2
   32
   30
   26
   25
   26
   Glucose
   89
   116
   Other labs: PT / PTT / INR:13.6/31.7/1.2, Ca++:7.8 mg/dL, Mg++:1.6
   mg/dL, PO4:1.6 mg/dL
   Vanc 18.8
   MICRO:
   [**Last Name (un) 524**]
   GRAM STAIN (Final [**2147-10-18**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2147-10-20**]):    NO GROWTH, <1000 CFU/ml.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   FUNGAL CULTURE (Preliminary):
      YEAST.
   Sputum cx pending
   GRAM STAIN (Final [**2147-10-18**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2147-10-18**]):
      TEST CANCELLED, PATIENT CREDITED.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Urine Cx pending, Bld cx x4 pending
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   #PEA: Differential includes hypovolemia, hypoxia, acidosis,
   hyper/hypokalemia, hypoglycemia, hypothermia, toxins, tamponade,
   tension pneumo, thrombosis, trauma.  In lieu of difficulty bagging with
   copious secretions, most likely cause is hypoxia.  [**Last Name (un) 524**]/ sputum cx
   were sent.  Patient has agreed to trach in the setting of numerous
   failed extubations. Vanc was added to her regimen. Her WBC has bumped
   up to 22.8.  ECG showed some ischemic changes.  Trops peaked at .13 and
   is trending down.
   # Hypoxia and respiratory failure: contributing factors include RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was re-intubated on [**10-18**]. After bronch, CXR showed some
   right upper lobe opening. She was Trach-ed on [**2147-10-20**] and was put on
   A/C 430/12. Currently back on PS.
   - wean back to PS 10/5
   - f/u with bronch/sputum cx
   - cont with suctioning secretions
   - continue Vit D and phosphate replacement
   - continue pain control on current regimen
   .
   # Pneumonia: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.  Vanc was added due to her hx of
   staph aureus. Cefepime was added to include broader coverage
   (pseudomonas)
   - recheck sputum cx
   - continue with vanc, levo, and cefepime for another day; if cultures
   are still negative, d/c
   - f/u vanc trough level
   - maintain cvl
   .
   #Hypotension: off pressors for >24 hrs.  Differential includes
   decreased volume status, sepsis, or cardiac.  WBC has increased with
   fevers.  CVP is 13.  She does have hx of cardiac injury.
   - monitor CVP levels for need of IVF; goal of [**9-11**].
   - f/u with bld, urine, sputum cx
   - cont with current abx regimen.
   .
   #Mild metabolic alkalosis: Most likely due to contraction alkalosis.
   Resolved with IVF.
   - check CVP for volume status and bolus with IVF if volume depleted
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-20**] 04:44 PM 40 mL/hour
   Replace NGT and hold carafate
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU:

2147-10-21 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Paraplegic since
   Pna
   PEA arrest
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2147-10-20**] 11:31 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-20**] 08:00 PM
   Levofloxacin - [**2147-10-20**] 09:00 PM
   Cefipime - [**2147-10-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-20**] 09:00 PM
   Carafate (Sucralfate) - [**2147-10-21**] 06:03 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-21**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-21**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 65 (55 - 88) bpm
   BP: 116/74(91) {92/57(70) - 160/105(127)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
   CVP: 13 (13 - 14)mmHg
   Total In:
                                                                  3,169 mL
                                                                    530 mL
   PO:
   TF:
                                                                    180 mL
                                                                    320 mL
   IVF:
                                                                  2,989 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    265 mL
   Urine:
                                                                  1,795 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,374 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 430) mL
   Vt (Spontaneous): 309 (309 - 453) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 276
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/40/123/22/1  on AC
   Ve: 4 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Trached, awake, interactive
   Hrt rrr
   Lungs clear anteriorly
   Abd benign
   Extrem no edema
   Labs / Radiology
   7.4 g/dL
   170 K/uL
   116 mg/dL
   0.2 mg/dL
   22 mEq/L
   3.5 mEq/L
   5 mg/dL
   110 mEq/L
   138 mEq/L
   23.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2147-10-19**]  04:36 AM
                             [**2147-10-19**]  04:36 PM
                             [**2147-10-20**]  12:33 AM
                             [**2147-10-20**]  05:23 AM
                             [**2147-10-20**]  05:42 AM
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
   WBC
   7.6
   7.3
   Hct
   24.5
   23.1
   22.7
   22.7
   23.4
   Plt
   172
   170
   Cr
   0.3
   0.2
   TCO2
   32
   30
   26
   25
   26
   Glucose
   89
   116
   Other labs: PT / PTT / INR:13.6/31.7/1.2, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   CXR yesterday, trach OK, bilat effusions, infiltrate right base
   Assessment and Plan
 PNEUMONIA / effusions / resp failure
 cont to wean vent, cont 72
   hours of abx
 URINARY TRACT INFECTION (UTI)
 completed course
   Hyppotension
 off of pressors, follow
   Paraplegia
 cont current regimen
   ICU Care
   Nutrition:  TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT:   sc hep
   Stress ulcer:   ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition :  icu
   Total time spent: 36

2147-10-22 07:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-20**] 09:00 PM
   Vancomycin - [**2147-10-21**] 08:00 AM
   Cefipime - [**2147-10-21**] 04:38 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-21**] 08:00 AM
   Morphine Sulfate - [**2147-10-21**] 01:45 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-21**] 02:00 PM
   Lorazepam (Ativan) - [**2147-10-22**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-22**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 65 (57 - 76) bpm
   BP: 105/63(80) {80/52(64) - 143/94(113)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
   CVP: 10 (4 - 17)mmHg
   Total In:
                                                                  1,347 mL
                                                                    781 mL
   PO:
   TF:
                                                                    607 mL
                                                                    212 mL
   IVF:
                                                                    640 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    615 mL
   Urine:
                                                                  1,535 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -188 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (261 - 365) mL
   PS : 8 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.39/45/173/25/2
   Ve: 3.6 L/min
   PaO2 / FiO2: 433
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   173 K/uL
   111 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.1 mEq/L
   6 mg/dL
   109 mEq/L
   139 mEq/L
   22.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2147-10-20**]  05:23 AM
                             [**2147-10-20**]  05:42 AM
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
   WBC
   7.6
   7.3
   6.1
   Hct
   23.1
   22.7
   22.7
   23.4
   22.8
   Plt
   172
   170
   173
   Cr
   0.3
   0.2
   0.3
   TCO2
   26
   25
   26
   26
   28
   Glucose
   89
   116
   111
   Other labs: PT / PTT / INR:13.3/30.1/1.1, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 PNEUMONIA / effusions / resp failure
 cont to wean vent, cont 72
   hours of abx
 URINARY TRACT INFECTION (UTI)
 completed course
   Hyppotension
 off of pressors, follow
   Paraplegia
 cont current regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2147-10-22 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PS was weaned from 12 to 10 then to 8. ABG good.
   - continued on vanc, cefepime and levofloxacin, d/c tomorrow if culture
   neg (72hr)
   - dobhoff replaced as the old one was clogged
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-20**] 09:00 PM
   Vancomycin - [**2147-10-21**] 08:00 AM
   Cefipime - [**2147-10-21**] 04:38 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-21**] 08:00 AM
   Morphine Sulfate - [**2147-10-21**] 01:45 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-21**] 02:00 PM
   Lorazepam (Ativan) - [**2147-10-22**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-22**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 65 (57 - 76) bpm
   BP: 105/63(80) {80/52(64) - 143/94(113)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
    CVP: 10 (4 - 17)mmHg
   Total In:
                                                                  1,347 mL
                                                                    781 mL
   PO:
   TF:
                                                                    607 mL
                                                                    212 mL
   IVF:
                                                                    640 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    615 mL
   Urine:
                                                                  1,535 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -188 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (261 - 365) mL
   PS : 8 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.39/45/173/25/2
   Ve: 3.6 L/min
   PaO2 / FiO2: 433
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   173 K/uL
   7.6 g/dL
   111 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.1 mEq/L
   6 mg/dL
   109 mEq/L
   139 mEq/L
   22.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2147-10-20**]  05:23 AM
                             [**2147-10-20**]  05:42 AM
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
   WBC
   7.6
   7.3
   6.1
   Hct
   23.1
   22.7
   22.7
   23.4
   22.8
   Plt
   172
   170
   173
   Cr
   0.3
   0.2
   0.3
   TCO2
   26
   25
   26
   26
   28
   Glucose
   89
   116
   111
   Other labs:
   PT / PTT / INR:13.3/30.1/1.1,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   MICRO:
   [**Last Name (un) 524**]:
GRAM STAIN (Final [**2147-10-18**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
RESPIRATORY CULTURE (Final [**2147-10-20**]):    NO GROWTH, <1000 CFU/ml.
LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
FUNGAL CULTURE (Preliminary): YEAST.
   Sputum cx pending
   Urine Cx pending, Bld cx x4 pending
   CXR: small left pleural effusion, haziness bilat, stable
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   #PEA: Differential includes hypovolemia, hypoxia, acidosis,
   hyper/hypokalemia, hypoglycemia, hypothermia, toxins, tamponade,
   tension pneumo, thrombosis, trauma.  In lieu of difficulty bagging with
   copious secretions, most likely cause is hypoxia.  [**Last Name (un) 524**]/ sputum cx
   were sent.  Patient has agreed to trach in the setting of numerous
   failed extubations. Vanc was added to her regimen. Her WBC has bumped
   up to 22.8.  ECG showed some ischemic changes.  Trops peaked at .13 and
   is trending down.
   # Hypoxia and respiratory failure: contributing factors include RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was re-intubated on [**10-18**]. After bronch, CXR showed some
   right upper lobe opening. She was Trach-ed on [**2147-10-20**] and was put on
   A/C 430/12. Currently back on PS.
   - wean to PS 5/5
   - f/u with bronch/sputum cx
   - cont with suctioning secretions
   - continue Vit D and phosphate replacement
   - continue pain control on current regimen
   .
   # Pneumonia: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.  Vanc was added due to her hx of
   staph aureus. Cefepime was added to include broader coverage
   (pseudomonas)
   - recheck sputum cx
   - continue with vanc, levo, and cefepime for another day; if cultures
   are still negative, d/c
   - f/u vanc trough level
   - maintain cvl
   .
   #Hypotension: off pressors for >24 hrs.  Differential includes
   decreased volume status, sepsis, or cardiac.  WBC has increased with
   fevers.  CVP is 13.  She does have hx of cardiac injury.
   - monitor CVP levels for need of IVF; goal of [**9-11**].
   - f/u with bld, urine, sputum cx
   - cont with current abx regimen.
   .
   #Mild metabolic alkalosis: Most likely due to contraction alkalosis.
   Resolved with IVF.
   - check CVP for volume status and bolus with IVF if volume depleted
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU:

2147-10-23 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-22**]:
   - talk to case management tomorrow about discharge to rehab
   - d/c'd all abx (vanc/cefepime/levo)
   - weaned to PS 5/5 -> then went up to [**11-6**] -> 15/5 bc of desat,
   secretions at night, will try to wean back to [**6-6**]
   - BAL from [**10-18**] grew only yeast
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-20**] 09:00 PM
   Cefipime - [**2147-10-21**] 04:38 PM
   Vancomycin - [**2147-10-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 72 (64 - 96) bpm
   BP: 119/77(93) {101/66(81) - 133/86(119)} mmHg
   RR: 22 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,179 mL
                                                                    504 mL
   PO:
             TF:
                                                                    969 mL
                                                                    291 mL
   IVF:
                                                                  1,090 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    480 mL
   Urine:
                                                                  2,675 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 308 (214 - 382) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 5.1 L/min
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   210 K/uL
   7.8 g/dL
   105 mg/dL
   0.2 mg/dL
   28 mEq/L
   3.3 mEq/L
   6 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2147-10-20**]  05:42 AM
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
                             [**2147-10-23**]  03:40 AM
   WBC
   7.3
   6.1
   7.5
   Hct
   22.7
   22.7
   23.4
   22.8
   23.0
   Plt
   170
   173
   210
   Cr
   0.2
   0.3
   0.2
   TCO2
   26
   25
   26
   26
   28
   Glucose
   116
   111
   105
   Other labs:
   PT / PTT / INR:13.1/28.9/1.1,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   MICRO:
   Bronch:
GRAM STAIN (Final [**2147-10-18**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
RESPIRATORY CULTURE (Final [**2147-10-20**]):    NO GROWTH, <1000 CFU/ml.
LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
FUNGAL CULTURE (Preliminary): YEAST.
   Sputum cx NG, contamination
   Urine Cx NG,  Bld cx x4 pending
   CXR: no CXR
   Assessment and Plan
   50 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   #PEA: Differential includes hypovolemia, hypoxia, acidosis,
   hyper/hypokalemia, hypoglycemia, hypothermia, toxins, tamponade,
   tension pneumo, thrombosis, trauma.  In lieu of difficulty bagging with
   copious secretions, most likely cause is hypoxia.  [**Last Name (un) 524**]/ sputum cx
   were sent.  Patient has agreed to trach in the setting of numerous
   failed extubations. Vanc was added to her regimen. Her WBC has bumped
   up to 22.8.  ECG showed some ischemic changes.  Trops peaked at .13 and
   is trending down.
   # Hypoxia and respiratory failure: contributing factors include RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was re-intubated on [**10-18**]. After bronch, CXR showed some
   right upper lobe opening. She was Trach-ed on [**2147-10-20**] and was put on
   A/C 430/12. Currently back on PS.
   - wean to PS 5/5
   - f/u with bronch/sputum cx
   - cont with suctioning secretions
   - continue pain control on current regimen
   .
   # Pneumonia: afebrile overnight.  Her sputum cx grew pan-sensitive
   klebsiella and staph aureus coag +.  Vanc was added due to her hx of
   staph aureus. Cefepime was added to include broader coverage
   (pseudomonas)
   - recheck sputum cx
   - d/c vanc, levo, cefepime -> cultures are neg for >72 hrs
   - maintain cvl
   .
   #Hypotension: off pressors for >24 hrs.  Differential includes
   decreased volume status, sepsis, or cardiac.  WBC has increased with
   fevers.  CVP is 13.  She does have hx of cardiac injury.
   - monitor CVP levels for need of IVF; goal of [**9-11**].
   - f/u with bld, urine, sputum cx
   .
   #Mild metabolic alkalosis: Most likely due to contraction alkalosis.
   Resolved with IVF.
   - check CVP for volume status and bolus with IVF if volume depleted
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-23**] 05:52 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2147-10-23 13:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with further wean in PSV mode of support
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-10-20**] 09:00 PM
   Cefipime - [**2147-10-21**] 04:38 PM
   Vancomycin - [**2147-10-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-23**] 01:00 AM
   Lansoprazole (Prevacid) - [**2147-10-23**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2147-10-23**] 01:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 83 (70 - 96) bpm
   BP: 110/69(86) {101/66(81) - 136/85(119)} mmHg
   RR: 19 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,179 mL
                                                                    707 mL
   PO:
             TF:
                                                                    969 mL
                                                                    435 mL
   IVF:
                                                                  1,090 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    720 mL
   Urine:
                                                                  2,675 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 295 (214 - 325) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 8 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Tracheostomy in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   210 K/uL
   105 mg/dL
   0.2 mg/dL
   28 mEq/L
   3.3 mEq/L
   6 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2147-10-20**]  05:42 AM
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
                             [**2147-10-23**]  03:40 AM
   WBC
   7.3
   6.1
   7.5
   Hct
   22.7
   22.7
   23.4
   22.8
   23.0
   Plt
   170
   173
   210
   Cr
   0.2
   0.3
   0.2
   TCO2
   26
   25
   26
   26
   28
   Glucose
   116
   111
   105
   Other labs: PT / PTT / INR:13.1/28.9/1.1, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Imaging: pt Refused
   Assessment and Plan
   50 yo female with T2 paraplegia with hospital course dominated by
   Klebsiella pneumonia and with improved aeration and now with minimal
   PSV support and have good Ve ([**6-7**]), RR (15) and patient alertness.
   1)Respiratory Failure-
   -PSV wean to trach mask today as tolerated
   -ABX D/C
follow for fever or change in WBC count
   -Will check NIF and follow motor strength
will replace PO4 now
   -OOB to chair
   -Suction as needed and will maintain PSV during sleep.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition: Tube feeds
move to speech and swallow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Arterial Line - [**2147-10-19**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition : To Rehab
   Total time spent: 35

2147-10-24 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-10-23**] 04:22 PM
   [**10-23**]:
   - d/c'ed a line
   - plan to d/c central line in AM, after PICC placed tomorrow
   - tolerated PMV for a couple minutes then put back on PS 10/5.  DId not
   tolerate collar or [**6-6**] very well
   - NIF: -38
   - Case management: rehab screen now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-10-21**] 04:38 PM
   Vancomycin - [**2147-10-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-10-23**] 09:10 AM
   Lorazepam (Ativan) - [**2147-10-24**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 77 (70 - 88) bpm
   BP: 137/90(102) {95/61(30) - 161/105(117)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,971 mL
                                                                    489 mL
   PO:
             TF:
                                                                    971 mL
                                                                    295 mL
   IVF:
                                                                    740 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    800 mL
   Urine:
                                                                  1,770 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    201 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (295 - 349) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 15 cmH2O
   SpO2: 93%
   ABG: ////
   NIF: -38 cmH2O
   Ve: 5.8 L/min
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   254 K/uL
   7.9 g/dL
   105 mg/dL
   0.2 mg/dL
   28 mEq/L
   3.3 mEq/L
   6 mg/dL
   104 mEq/L
   140 mEq/L
   24.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
                             [**2147-10-23**]  03:40 AM
                             [**2147-10-24**]  06:15 AM
   WBC
   7.3
   6.1
   7.5
   6.9
   Hct
   22.7
   22.7
   23.4
   22.8
   23.0
   24.8
   Plt
   170
   173
   210
   254
   Cr
   0.2
   0.3
   0.2
   TCO2
   25
   26
   26
   28
   Glucose
   116
   111
   105
   Other labs: PT / PTT / INR:12.4/27.3/1.0,
   Ca 8.7, Phos 3.6, Mg 1.9
   MICRO:
   Bronch:
GRAM STAIN (Final [**2147-10-18**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
RESPIRATORY CULTURE (Final [**2147-10-20**]):    NO GROWTH, <1000 CFU/ml.
LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
FUNGAL CULTURE (Preliminary): YEAST.
   Sputum cx NG, contamination
   Urine Cx NG,  Bld cx x4 pending
   IMAGING:
   CXR: today
   Assessment and Plan
   51 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   # Hypoxia and respiratory failure: contributing factors include RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was re-intubated on [**10-18**]. After bronch, CXR showed some
   right upper lobe opening. She was Trach-ed on [**2147-10-20**] and was put on
   A/C 430/12. Currently back on PS 10/5. RSBI = 93, NIF= -38.  Some
   barriers to extubation include deconditioning, low phosphate levels,
   persistent lower lung collapse.
   - wean to PS 5/5 and maintain as long as possible
   - f/u with s/s c/s
   - f/u with bronch/sputum cx
   - cont with suctioning secretions
   - continue pain control on current regimen
   - follow phosphate levels and continue repletion and vit d replacement
   .
   # Pneumonia: stable.  She has remained afebrile for a couple of days.
   Her sputum cx grew pan-sensitive klebsiella and staph aureus coag +.
   She is off all abx.
   .
   #Hypotension: stable.  off pressors for >24 hrs.  Differential includes
   decreased volume status, sepsis, or cardiac.  WBC has increased with
   fevers.  CVP is 13.  She does have hx of cardiac injury.
   - f/u with bld, urine, sputum cx
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - transition ativan to home dose of clonazepam
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-24**] 01:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-10-9**] 02:11 AM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: f/u with case management considering discharge to rehab

2147-10-24 12:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-10-23**] 04:22 PM
   -CVL discontinued and A-line discontinued
   -PICC placed
   -Did need to return to PSV support at 10/5 with brief trial of trach
   mask and PMV trialed.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-10-21**] 04:38 PM
   Vancomycin - [**2147-10-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-24**] 11:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2147-10-24**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 74 (71 - 88) bpm
   BP: 127/89(98) {95/61(30) - 161/105(117)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,971 mL
                                                                    731 mL
   PO:
             TF:
                                                                    971 mL
                                                                    498 mL
   IVF:
                                                                    740 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                  1,160 mL
   Urine:
                                                                  1,770 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    201 mL
                                                                   -429 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (298 - 381) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///29/
   NIF: -38 cmH2O
   Ve: 4.3 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   254 K/uL
   89 mg/dL
   0.2 mg/dL
   29 mEq/L
   4.1 mEq/L
   7 mg/dL
   102 mEq/L
   138 mEq/L
   24.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2147-10-20**]  05:03 PM
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
                             [**2147-10-23**]  03:40 AM
                             [**2147-10-24**]  06:15 AM
   WBC
   7.3
   6.1
   7.5
   6.9
   Hct
   22.7
   22.7
   23.4
   22.8
   23.0
   24.8
   Plt
   170
   173
   210
   254
   Cr
   0.2
   0.3
   0.2
   0.2
   TCO2
   25
   26
   26
   28
   Glucose
   116
   111
   105
   89
   Other labs: PT / PTT / INR:12.4/27.3/1.0, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR-PICC in good position, Improved aeration in bases
   bilaterally.
   Assessment and Plan
   51 yo female with T2 paraplegia and hospital course complicated by
   recurrent respiratory failure with need for tracheostomy and now able
   to tolerate wean in PSV support with brief trial on trach mask with
   PMV.  She has persistent improvement in hemodynamic stability.
   1)Respiratory Failure-Limited by rapid shallow breathing that evolves
   with pressure support discontinued-this would appear to be related to
   chest wall issues with rib fractures, T2 level compromise and possible
   persistent atelectasis.
   -Will move to trach mask trials
   -OOB to chair
   -Continued move to rehab placement
   Additional issues to be addressed as deinfed in the housestaff note.
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-24**] 01:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-10-24**] 09:29 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 40 minutes

2147-10-25 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2147-10-24**] 09:29 AM
 MULTI LUMEN - STOP [**2147-10-24**] 11:01 AM
   [**10-24**]:
   - Her birthday! Turned 51.
   - PICC placed
   - CVL pulled
   - Fiberoptic Endoscopic Evaluation of Swallowing (FEES) done today
   instead of video swallow study as pt continued to be on ventilator
   - pt has a bed at 10:30am tomorrow morning at the rehab
   - MAP in the low 60s, pt asymptomatic-sleeping, given 250cc NS x2
   - NE [**Hospital1 1298**] in [**Location (un) 2460**] continues to be the patient
s only choice for
   LTACH transfer, and they have offered a bed today.  MICU team and
   patient
s nurse informed.  NCM to page resident with time for transfer
   once NE [**Hospital1 1298**] obtains MassPRO authorization as the patient
s payer is
   MassHealth.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-24**] 11:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-25**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 94 (64 - 94) bpm
   BP: 115/70(80) {75/51(57) - 138/89(102)} mmHg
   RR: 27 (9 - 27) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,433 mL
                                                                    906 mL
   PO:
             TF:
                                                                    960 mL
                                                                    286 mL
   IVF:
                                                                    113 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    460 mL
   Urine:
                                                                  2,050 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                    446 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (316 - 419) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 16 cmH2O
   SpO2: 89%
   ABG: ///34/
   Ve: 4.7 L/min
   Physical Examination
   General: In moderate distress. Alert
   HEENT: no LAD
   Cardiovascular: RRR with nl S1, S2.  No w/r/r.
   Lungs: Decreased breath sounds on right lung with fine crackles
   Abdominal: Soft, non-tender, ND, + BS in all 4 quadrants
   Extremities: no edema
   Labs / Radiology
   219 K/uL
   7.5 g/dL
   114 mg/dL
   0.1 mg/dL
   34 mEq/L
   3.9 mEq/L
   9 mg/dL
   100 mEq/L
   138 mEq/L
   23.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
                             [**2147-10-23**]  03:40 AM
                             [**2147-10-24**]  06:15 AM
                             [**2147-10-25**]  05:28 AM
   WBC
   7.3
   6.1
   7.5
   6.9
   8.1
   Hct
   22.7
   23.4
   22.8
   23.0
   24.8
   23.2
   Plt
   170
   173
   210
   254
   219
   Cr
   0.2
   0.3
   0.2
   0.2
   0.1
   TCO2
   25
   26
   26
   28
   Glucose
   116
   111
   105
   89
   114
   Other labs:
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   MICRO:
   Bronch:
GRAM STAIN (Final [**2147-10-18**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
RESPIRATORY CULTURE (Final [**2147-10-20**]):    NO GROWTH, <1000 CFU/ml.
LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
FUNGAL CULTURE (Preliminary): YEAST.
   Sputum cx NG, contamination
   Urine Cx NG,  Bld cx x4 pending
   IMAGING:
FEES:
1. Suggest pt remain strictly NPO, including meds.
2. Continue with alternate means of nutrition, hydration and
medication via the Dobbhoff.
3. Q4 oral care.
4. Continue cuff deflation and PMV trials as tolerated.
5. Continued speech therapy services upon d/c to rehab.
   Assessment and Plan
   51 yoF w/ a h/o MVA/T2 paraplegia since [**2142**] and intermittent episodes
   of respiratory failure due to UTIs and pneumonia admitted with fever,
   hypotension, and acute respiratory failure.
   # Hypoxia and respiratory failure: contributing factors include RLL
   lung collapse, atelectasis, small pleural effusions, pneumonia, and
   pain.  She was re-intubated on [**10-18**]. After bronch, CXR showed some
   right upper lobe opening. She was Trach-ed on [**2147-10-20**] and was put on
   A/C 430/12. Currently back on PS 10/5. RSBI = 93, NIF= -38.  Some
   barriers to extubation include deconditioning, low phosphate levels,
   persistent lower lung collapse.
   - wean to PS 5/5 and maintain as long as possible
   - f/u with s/s c/s
   - f/u with bronch/sputum cx
   - cont with suctioning secretions
   - continue pain control on current regimen
   - follow phosphate levels and continue repletion and vit d replacement
   .
   # Pneumonia: stable.  She has remained afebrile for a couple of days.
   Her sputum cx grew pan-sensitive klebsiella and staph aureus coag +.
   She is off all abx.
   .
   #Hypotension: stable.  off pressors for >24 hrs.  Differential includes
   decreased volume status, sepsis, or cardiac.  WBC has increased with
   fevers.  CVP is 13.  She does have hx of cardiac injury.
   - f/u with bld, urine, sputum cx
   .
   # Anemia:  chronic normocytic anemia, with baseline hct in the 25-30
   range.  Hemodynamically stable with no obvious sources of bleeding.
   B12, iron, folate studies wnl.
   - continue to monitor Hct
   .
   # T2 Paraplegia:
   - continue home pain regimen with baclofen, methadone, lyrica.
   - oxycodone IR 5mg q4h PRN, lidocaine patch, methadone 5mg tid for pain
   - trazodone 25mg hs prn, clonazepam 1mg qhs for anxiety
   - transition ativan to home dose of clonazepam
   - continue home bowel regimen.
   .
   #Depression: Continue outpt. management with Celexa 40mg
   .
   #Hypokalemia: stable.  Consider intrinsic renal disease vs. potassium
   wasting
   - replete K
   - continue monitoring
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-24**] 01:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-10-24**] 09:29 AM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: f/u with case management considering discharge to rehab

2147-10-25 08:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2147-10-24**] 09:29 AM
 MULTI LUMEN - STOP [**2147-10-24**] 11:01 AM
   PICC Placed
   CVL discontinued
   250cc for transient hypotension
   Swallowing suggesting NPO
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-24**] 11:05 AM
   Lansoprazole (Prevacid) - [**2147-10-25**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2147-10-25**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 71 (64 - 94) bpm
   BP: 105/69(78) {75/50(57) - 138/89(102)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 72.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,433 mL
                                                                  1,029 mL
   PO:
             TF:
                                                                    960 mL
                                                                    349 mL
   IVF:
                                                                    113 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    640 mL
   Urine:
                                                                  2,050 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 371 (316 - 419) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 3.7 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   219 K/uL
   114 mg/dL
   0.1 mg/dL
   34 mEq/L
   3.9 mEq/L
   9 mg/dL
   100 mEq/L
   138 mEq/L
   23.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2147-10-20**]  07:00 PM
                             [**2147-10-21**]  12:30 AM
                             [**2147-10-21**]  04:03 AM
                             [**2147-10-21**]  04:17 AM
                             [**2147-10-21**]  12:03 PM
                             [**2147-10-22**]  04:38 AM
                             [**2147-10-22**]  05:41 AM
                             [**2147-10-23**]  03:40 AM
                             [**2147-10-24**]  06:15 AM
                             [**2147-10-25**]  05:28 AM
   WBC
   7.3
   6.1
   7.5
   6.9
   8.1
   Hct
   22.7
   23.4
   22.8
   23.0
   24.8
   23.2
   Plt
   170
   173
   210
   254
   219
   Cr
   0.2
   0.3
   0.2
   0.2
   0.1
   TCO2
   25
   26
   26
   28
   Glucose
   116
   111
   105
   89
   114
   Other labs: PT / PTT / INR:12.4/27.3/1.0, CK / CKMB /
   Troponin-T:22/3/0.09, ALT / AST:[**7-17**], Alk Phos / T Bili:53/0.1,
   Differential-Neuts:76.7 %, Lymph:20.5 %, Mono:1.4 %, Eos:1.0 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.8 g/dL, LDH:189 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: None
   Assessment and Plan
   51 yo female with admission with persistent respiratory failure with
   aspiration, in ability to clear secretions and persistent atelectasis
   and collapse requiring tracheostomy and now with chronic ventilatory
   support required  with frequent suctioning.
   1)Respiratory Failure-This was a picture of pneumonia but then with
   significant right sided lung involvement and collapse patient was
   unable to effectively clear secretions.  This required intubation
   compliacted by PEA arrest.  After extensive discussions with patient
   and her husband and in response to significant and persistent risk for
   recurrent obstruction and to allow more systematic weaning from the
   ventilator tracheostomy was clearly required. At this point patient
   appears to be limited in regards to capacity to wean from ventilator
   support primarily due to weakness, secretions rather than persistent
   infection or volume overload.
   -Wean PSV as tolerated
   -PMV teaching completed and patient with good experience with this from
   past as well
   -Trach mask trials as tolerated
   2)Aspiration-
   -Will remain NPO
   -Tube feeds for now
   -Will have to consider G-tube if move to po intake without success
 HYPOTENSION (NOT SHOCK)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
 ALTERATION IN NUTRITION
 .H/O PNEUMONIA, OTHER
 .H/O URINARY TRACT INFECTION (UTI)
 HYPOXEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-24**] 01:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-10-24**] 09:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes